2127-10-08 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - off sedation
   - Liver recs: continue Lactulose and rifaximin.  Will require tx tap -
   defer to extubation.  workup renal failure.
   - tried removing sedation but he was overbreathing the vent pretty
   hard, with minute ventilation of 30/min.  tried adjusting his vent
   settings, finally restarted sedation, which improved tachycardia and
   blood gas.  7.28/11/164/5
   - repeat ABG noted to be 7.24/11/186/5, pt overbreathing vent with
   large tidal volumes. Likely due to metabolic acidosis, gave 1amp HCO3,
   start HCO3 gtt @ 150cc/hr, increased sedation.
   - at 5AM BP dropped to 80s.  Sedation stopped, given bolus of 2L +
   albumin.
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2127-10-8**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-8**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.1
C (96.9
   HR: 109 (109 - 143) bpm
   BP: 96/55(64) {84/21(34) - 153/92(106)} mmHg
   RR: 25 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.5 kg (admission): 58.6 kg
   Height: 62 Inch
           Total In:
                                                                  3,992 mL
                                                                  2,485 mL
   PO:
           TF:
   IVF:
                                                                  3,342 mL
                                                                  2,295 mL
   Blood products:
                                                                    100 mL
                                                                     50 mL
   Total out:
                                                                    894 mL
                                                                  1,033 mL
   Urine:
                                                                    194 mL
                                                                     33 mL
   NG:
   1,000 mL
   Stool:
   Drains:
   Balance:
                                                                  3,098 mL
                                                                  1,452 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 882 (882 - 1,191) mL
   PS : 5 cmH2O
   RR (Set): 30
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: 7.31/14/217/8/-16
   Ve: 18 L/min
   PaO2 / FiO2: 543
   Physical Examination
   Gen: sedated, intubated.  Not responsive to command or sternal rub
   Cardiac: RRR, nl S1 S2
   Lungs: CTAB
   Abd: distended, tympanic to percussion. + fluid wave. Not tense.  No
   signs of rebound, guarding, or tenderness.
   Ext: no clubbing/cyanosis/edema.
   Labs / Radiology
   112 K/uL
   8.7 g/dL
   142 mg/dL
   4.7 mg/dL
   8 mEq/L
   3.6 mEq/L
   88 mg/dL
   114 mEq/L
   148 mEq/L
   26.0 %
   19.2 K/uL
        [image002.jpg]
                             [**2127-10-6**]  11:28 PM
                             [**2127-10-7**]  12:29 AM
                             [**2127-10-7**]  12:00 PM
                             [**2127-10-7**]  10:45 PM
                             [**2127-10-8**]  12:54 AM
                             [**2127-10-8**]  02:56 AM
                             [**2127-10-8**]  03:09 AM
   WBC
   10.8
   19.2
   Hct
   31.9
   26.0
   Plt
   148
   112
   Cr
   3.4
   3.9
   4.7
   TCO2
   13
   5
   5
   7
   Glucose
   125
   117
   142
   Other labs: PT / PTT / INR:22.4/44.3/2.1, ALT / AST:27/55, Alk Phos / T
   Bili:64/1.8, Lactic Acid:8.3 mmol/L, LDH:214 IU/L, Ca++:9.4 mg/dL,
   Mg++:3.4 mg/dL, PO4:8.7 mg/dL
   Assessment and Plan
 IMPAIRED HEALTH MAINTENANCE
 MALNUTRITION
 LIVER FUNCTION ABNORMALITIES
   43 year old man with end-stage liver disease admitted with altered
   mental status, thought to be [**2-3**] hepatic encephalopathy
   #) Sepsis  - Elevated white count/lactate/hypotension
 Likely due to
   an infection on top of severely decompensated liver disease.  Unclear
   as to the etiology of the infection.  Peritoneal tap and CXR were
   reassuring.  UA bland, Blood cultures negative to date.   Distended
   abdomen with increased gas in bowel suggesting the abdomen may be the
   source.
   - surveillance cultures
   - U/A
   - Cdiff
   - CXR
   - follow white count
   - empiric treatment with Flagyl and Ceftriaxone
   - consider imaging if strong suspicion for a source
   - follow liver enzymes
   - trend lactate
   - guaic stools for possible ischemia
   #) Altered Mental Status: Acute change in mental status per wife.
   Ammonia level very elevated, + asterixis when not sedated. Very likely
   that the source of his sepsis picture instigated his altered mental
   status.
   - infection work up as above
   - correct electrolyte abnormalities
   - continue lactulose 30-60mL TID titrated to [**4-7**] BM per day and
   rifaximin
   - on ciprofloxacin 500 mg daily for SBP prophylaxis
   #) Hypotension - Pt has been hypotensive to 80s systolic this morning,
   responsive to aggressive fluid resucitation.  [**Month (only) 51**] have been secondary
   to his underlying illness and exacerbated by propofol.   Avoid propofol
   for sedation.  Consider fentanyl bolus if sedation required.
   - Continue IVF.
   - Neo drip if needed.
   - Aline for blood pressure monitoring and control
   #) Acute on chronic renal failure- Baseline 2.0.  Creatinine trend
   3.3--> 3.4 --> 3.9 --> 4.7.  Minimal urine output.   UOP not responsive
   to MAP of 70 (which he has maintained both with and without fluid
   resucitation).  Also  concern for hepatorenal syndrome.  Urine sodium
   of 10 consistent with poor perfusion and hepatorenal.
   -continue IV fluids , maintain MAP > 60
   -hold midrodine for now, will touch base with liver
   - renally dose meds
   #) Anemia
 drop in Hct from 31.9 to 26.  [**Month (only) 51**] be [**2-3**] to volume.  Assess
   for GI blood loss as well as hemolysis.
   - f/u haptoglobin, direct bili
   - stool guaic
   #. ETOH cirrhosis/[**Name (NI) 4404**] - Pt has has MELD score of 30 with high 30 day
   mortality.  If pt is not a candidate for transplant, which he has not
   been to this point, due to malnutrition and poor compliance, aggressive
   measures would not have great benefit.  GI will readdress with
   transplant team regarding possibility of being added to the transplant
   list, if he can improve from his currest state.
   -lactulose/rifaximin as above
   -cipro 500 mg daily for SBP prophylaxis
   -nutrition c/s once awake as below
   #. Respiratory: On ventilator for airway protection. Doing well on
   CPAP.  He has been overbreathing with TV of 1L, improves with
   sedation.  Plan was to maintain intubation for airway protection until
   MS improves, however, pt was off propofol for 12 hrs without
   improvement in MS.   Sedation was restarted due to difficulty managing
   pt comfort and blood gases while on vent.   High fluid volume may
   impair weaning capability when mental status improves.
   #. Nutrition- Patient very cachectic; once mental status improved
   - consider TPN
   -encourage regular diet
   -megace added
   -reglan QID
   FEN: IVF, replete electrolytes, NPO for now
   Prophylaxis: Subutaneous heparin, bowel regimen
   Access: peripherals
   Code: FULL, wife
   Communication: [**Name2 (NI) **]
   .
   Disposition: ICU
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-10-8**] 12:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-09 06:16:00 Physician Resident Progress Note
Chief Complaint: 43 yom with [**Hospital 4404**] transferred to [**Hospital1 19**] from [**Hospital3 2312**]
   Hospital for altered mental status.  Wife reports that patient had
   increased asterixis and was taking extra doses of lactulose.  She also
   reported some vomiting the night PTA but no other symptoms.  He had
   recently been discharged on [**9-30**] with similar symptoms and was treated
   for pneumonia with levofloxacin (last dose [**10-3**]).  CT head was
   performed which was negative and CXR overnight has shown an increasing
   LLL infiltrate.
   24 Hour Events:
   - central line and arterial line placed
   - bloody NGT aspirate with dropping HCT 32.7->31.9->26.0->24.5->22.9
   -transfused 2 units PRBC's with bump: to 30.2
 patient started on
   octreotide drip
   - platelets continue to trend down from 146 now to 91 with elevated FDP
   10-40 and increasing coags INR from 1.8 to 2.6
   - liver consulted but do not feel EGD is appropriate given current
   level of illness
   - family meeting with GI re: poor prognosis but want full care, the
   would like to re-evaluate s/p meeting with transplant (Dr. [**Last Name (STitle) 1174**] in AM
   - patient becoming hypotensive, started on levo drip for MAP > 65
   - patient started on empiric vancomycin for HAP with blossoming LLL
   infiltrate
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2127-10-8**] 11:47 AM
   Ciprofloxacin - [**2127-10-8**] 12:59 PM
   Metronidazole - [**2127-10-9**] 02:25 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2127-10-9**] 02:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-9**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 128 (109 - 129) bpm
   BP: 113/57(76) {98/49(64) - 138/79(102)} mmHg
   RR: 32 (25 - 35) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.5 kg (admission): 58.6 kg
   Height: 62 Inch
    CVP: 5 (5 - 6)mmHg
   Total In:
                                                                  7,213 mL
                                                                  2,446 mL
   PO:
   TF:
   IVF:
                                                                  6,261 mL
                                                                  2,206 mL
   Blood products:
                                                                    752 mL
   Total out:
                                                                  2,583 mL
                                                                     43 mL
   Urine:
                                                                    183 mL
                                                                     43 mL
   NG:
                                                                  1,800 mL
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  4,630 mL
                                                                  2,403 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 535 (535 - 750) mL
   RR (Set): 18
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 12 cmH2O
   SpO2: 96%
   ABG: 7.31/27/78.[**Numeric Identifier 181**]/15/-11
   Ve: 17 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General: overbreathing vent
 almost agonal respirations, sedated,
   unresponsive
   Lungs: coarse BL breath sounds, tachypnic
   Heart: regular, tachycardic
   Abdomen: soft, mildly distended, hypoactive BS, no fluid wave
   Extremities: WWP, no CCE, DP 2+
   Labs / Radiology
   91 K/uL
   10.4 g/dL
   90 mg/dL
   4.7 mg/dL
   15 mEq/L
   4.1 mEq/L
   92 mg/dL
   112 mEq/L
   145 mEq/L
   32
   14.0 K/uL
        [image002.jpg]
                             [**2127-10-8**]  03:09 AM
                             [**2127-10-8**]  10:15 AM
                             [**2127-10-8**]  01:24 PM
                             [**2127-10-8**]  03:25 PM
                             [**2127-10-8**]  03:50 PM
                             [**2127-10-8**]  05:48 PM
                             [**2127-10-8**]  08:58 PM
                             [**2127-10-8**]  10:40 PM
                             [**2127-10-9**]  02:47 AM
                             [**2127-10-9**]  03:05 AM
   WBC
   19.2
   16.0
   14.0
   Hct
   26.0
   24.5
   22.9
   33
   31
   30.2
   32
   Plt
   112
   106
   91
   Cr
   4.7
   4.6
   4.7
   4.7
   TCO2
   17
   17
   15
   13
   12
   14
   Glucose
   142
   146
   81
   81
   90
   Other labs: PT / PTT / INR:26.3/46.9/2.6, ALT / AST:29/81, Alk Phos / T
   Bili:60/4.1, Fibrinogen:219 mg/dL, Lactic Acid:4.8 mmol/L, Albumin:3.9
   g/dL, LDH:307 IU/L, Ca++:9.4 mg/dL, Mg++:3.0 mg/dL, PO4:7.3 mg/dL
   Microbiology
   - stool [**10-8**]: pending
   - urine [**10-8**]: pending
   - blood [**10-6**] and [**10-8**]: pending
   - peritoneal [**10-6**]: pending
   - sputum [**10-8**]: pending
   Imaging
   - CXR [**10-8**]: patchy linear opacities at LLL c/w atelectasis
 this was
   noted during prior admission
   - CXR [**10-9**]: increased LLL infiltrate, airspace disease, potentially
   lingual, concerning for PNA
   Assessment and Plan
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock.
   # Septic Shock: continued leukocytosis with lactic acidosis and now
   hypotension requiring pressor support in setting of severely
   decompensated liver disease.  Patient has been pan-cultured with
   unclear etiology of infection.  To date, most likely source is lung as
   patient was recently treated for PNA, now with copious thick yellow
   secretions and blossoming LLL infiltrate on CXR.
   - continue broad spectrum abx with vancomycin, ciprofloxacin,
   ceftriaxone and flagyl pending culture and gram stain results
   - consider abdominal imaging to eval. for infectious source in setting
   of bloody NG aspirate, rising LFT
s and distended abdomen, with
   distended bowel apparent on CXR
   - hold off on fluid boluses this AM and use pressor support for MAP >
   60, add vasopressin next if neo is not sufficient
   # Altered Mental Status: patient initially presented with acute change
   in mental status and asterixis suggesting hepatic encephalopathy
   triggered by underlying infection, now septic shock.
   - infection work up and empiric treatment as discussed above
   - continue lactulose 30-60 mL TID titrated to [**4-7**] BM per day and
   rifaximin for hepatic encephalopathy
   # Acute on chronic renal failure:  prior Cr baseline of 2.0 now
   elevated to 4.7 with minimal UOP despite substantial fluid
   resuscitation and pressor support likely representing hepatorenal
   syndrome, supported by urine lytes with UNa < 10.
   - add midodrine for HRS as it may support pressures and help renal
   function
   - renally dose all medications
   # Anemia: HCT initially trending down with blood NGT aspirate now s/p 2
   units PRBC
s with appropriate bump.  Of note, platelets also continue
   to trend down with increasing TBili, FDP and coags suggesting early
   DIC.  Patient is not candidate for EGD at this time per Liver. Patient
   placed on octreotide drip for bloody NGT aspirate.  Bloody NG aspirate
   may have resulted from irritation from NGT as it has resolved.
   - trend with TID CBC / coags to evaluate for developing DIC and
   transfuse to goal HCT > 23 and platelets > 50,000
   - guiac stool
   #. ETOH cirrhosis/ESLD: patient with MELD score of 30, currently not a
   transplant candidate.
   - continue treatments for hepatic encephalopathy as discussed above
   - set up family meeting with transplant (Dr. [**Last Name (STitle) 1174**] for discussion of
   prognosis as this will likely govern future management
   #. Respiratory: patient continues to substantially overbreathe
   ventilator with respiratory alkalosis.  Sedation was up-titrated with
   minimal success.  This is likely physiologic response to underlying
   metabolic acidosis.
   - titrate up PEEP on PSV as recruitment maneuver
   #. Nutrition: patient very cachetic with history of poor nutritional
   compliance
   - consider TPN vs. TF depending on bowel and absorption
   - discontinue megestrol and reglan
   # FEN: IVF, [**Hospital1 7**] electrolytes with repletion, NPO for now pending
   disposition
   # Prophylaxis: Subutaneous heparin, bowel regimen, octreotide drip, [**Hospital1 7**]
   PPI
   # Access: peripherals
   # Code: FULL
   # Communication: wife, mother and family
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-10-6**] 11:30 PM
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Arterial Line - [**2127-10-8**] 03:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-09 09:12:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2127-10-8**] 11:25 AM
 URINE CULTURE - At [**2127-10-8**] 11:25 AM
 MULTI LUMEN - START [**2127-10-8**] 02:56 PM
 ARTERIAL LINE - START [**2127-10-8**] 03:14 PM
 SPUTUM CULTURE - At [**2127-10-9**] 04:18 AM
   CVL and A-line placed
   HCt decreased to 22.9 (33.7)-_GI aware
   PLT decreased further
   Pressors required
   Hepatology discussion of worsening clinical course with patient family
   Worsening LLL opacity concerning for evolution of pneumonia
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2127-10-8**] 11:47 AM
   Ciprofloxacin - [**2127-10-8**] 12:59 PM
   Metronidazole - [**2127-10-9**] 02:25 AM
   Vancomycin - [**2127-10-9**] 06:12 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2127-10-9**] 02:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2127-10-9**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 127 (113 - 129) bpm
   BP: 118/46(72) {95/37(58) - 138/79(102)} mmHg
   RR: 25 (21 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.5 kg (admission): 58.6 kg
   Height: 62 Inch
   CVP: 5 (5 - 6)mmHg
   Total In:
                                                                  7,213 mL
                                                                  3,857 mL
   PO:
   TF:
   IVF:
                                                                  6,261 mL
                                                                  3,497 mL
   Blood products:
                                                                    752 mL
   Total out:
                                                                  2,583 mL
                                                                     78 mL
   Urine:
                                                                    183 mL
                                                                     78 mL
   NG:
                                                                  1,800 mL
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  4,630 mL
                                                                  3,779 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 862 (535 - 862) mL
   RR (Set): 18
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.31/27/78.[**Numeric Identifier 181**]/15/-11
   Ve: 19.8 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended,
   Hypoactive bowel sounds
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   91 K/uL
   90 mg/dL
   4.7 mg/dL
   15 mEq/L
   4.1 mEq/L
   92 mg/dL
   112 mEq/L
   145 mEq/L
   32
   14.0 K/uL
        [image002.jpg]
                             [**2127-10-8**]  03:09 AM
                             [**2127-10-8**]  10:15 AM
                             [**2127-10-8**]  01:24 PM
                             [**2127-10-8**]  03:25 PM
                             [**2127-10-8**]  03:50 PM
                             [**2127-10-8**]  05:48 PM
                             [**2127-10-8**]  08:58 PM
                             [**2127-10-8**]  10:40 PM
                             [**2127-10-9**]  02:47 AM
                             [**2127-10-9**]  03:05 AM
   WBC
   19.2
   16.0
   14.0
   Hct
   26.0
   24.5
   22.9
   33
   31
   30.2
   32
   Plt
   112
   106
   91
   Cr
   4.7
   4.6
   4.7
   4.7
   TCO2
   17
   17
   15
   13
   12
   14
   Glucose
   142
   146
   81
   81
   90
   Other labs: PT / PTT / INR:26.3/46.9/2.6, ALT / AST:29/81, Alk Phos / T
   Bili:60/4.1, Fibrinogen:219 mg/dL, Lactic Acid:4.8 mmol/L, Albumin:3.9
   g/dL, LDH:307 IU/L, Ca++:9.4 mg/dL, Mg++:3.0 mg/dL, PO4:7.3 mg/dL
   Imaging: CXR--ETT and CVL in good position.
   Microbiology: Sputum, Blood, Peritoneal fluid all without positive
   culture results
   Assessment and Plan
   43 yo male with history of cirrhosis and now with admission with sepsis
   and worsening liver and renal failure.  He has hospital course
   complicated by worsening anemia and thrombocytopenia and now has
   pressor requiring septic shock.
   1)Sepsis-We have likely pulmonary or abdominal source but no orienting
   culture results.  He has striking pulse pressure variation with
   respiratory cycle which may be a marker for continued hypovolemia and
   fluid responsiveness going forward.  He may well be faced with
   persistent decrease in splanchnic SVR
   -CTX/Flagyl/Cipro/Vanco to continue
   -Levophed as needed, may benefit from vasopressin if there is
   additional benefit in regards to splanchnic contribution to decreased
   SVR.
   _Will maintain HCT at stable levels and target closer to 30
   -Fluid bolus as needed today
   -Will attempt to keep CVP at >6 as needed and will move to pressors as
   primary mode of support if MAP decrease is seen
   -
   2)Respiratory Failure-Patient with respiratory alkalosis in recent past
   and has been maintained with PSV at this time in the setting of now
   left sided pneumonia
   -Continue with PSV
   -Maintain PEEP=5
10 in the setting of altered chest wall mechanics
   -Mental status and worsening sepsis and worsening renal failure all
   prevent any consideration of extubation
   3)Renal Failure-
   -Renally dose all medication
   -Na+ <10 in urine concerning for hepatorenal and we have done
   optimization of fluid balance
   -Bladder pressure to check for possible contribution to renal failure
   -Will continue Midodrine/Octreotide for contribution from hepato-renal
   syndrome
   -ATN likely playing a role and will work to minimize with stabilization
   of perfusion.
   4)Anemia-
   -OCtreotide/PPI
   -Follow HCT
   -Concern for GI losses
   5)Thrombocytopenia-[**Month (only) 51**] be contribution from DIC and contribution from
   splenic sequestration
   -Continue supportive care
   6)Acidosis--Anion gap acidosis in the setting of mild lactate elevation
   and renal failure and no-gap acidosis as well
   -HCO3- in fluids as reasonable
   7)Cirrhosis
   -Rifax, Lactulose
   -Family needs frank discussion of patient
s continued and unchanging
   clinical decline in the setting of cirrhosis and unavailability for
   transplant.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2127-10-6**] 11:30 PM
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Arterial Line - [**2127-10-8**] 03:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  Will need to continue family meeting
   discussions in the setting of continued clinical decline and no
   reasonable expectation of meaningful recovery.  Will continue
   discussions with patient and Hepatology service.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2127-10-09 23:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2127-10-8**] 11:25 AM
 URINE CULTURE - At [**2127-10-8**] 11:25 AM
 MULTI LUMEN - START [**2127-10-8**] 02:56 PM
 ARTERIAL LINE - START [**2127-10-8**] 03:14 PM
 SPUTUM CULTURE - At [**2127-10-9**] 04:18 AM
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2127-10-9**] 06:12 AM
   Ceftriaxone - [**2127-10-9**] 12:48 PM
   Ciprofloxacin - [**2127-10-9**] 02:47 PM
   Metronidazole - [**2127-10-9**] 06:40 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-9**] 07:43 PM
   Fentanyl - [**2127-10-9**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-9**] 11:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.3
C (99.1
   HR: 144 (115 - 144) bpm
   BP: 107/56(71) {95/37(58) - 138/79(102)} mmHg
   RR: 33 (17 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.5 kg (admission): 58.6 kg
   Height: 62 Inch
    CVP: 5 (5 - 6)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
                                Total In:
                                                                  7,213 mL
                                                                  5,411 mL
   PO:
                                TF:
   IVF:
                                                                  6,261 mL
                                                                  4,881 mL
   Blood products:
                                                                    752 mL
   Total out:
                                                                  2,583 mL
                                                                  1,193 mL
   Urine:
                                                                    183 mL
                                                                    193 mL
   NG:
                                                                  1,800 mL
                                                                  1,000 mL
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  4,630 mL
                                                                  4,218 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 641 (535 - 992) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: 7.57/18/116/16/-2
   Ve: 17.2 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   92 K/uL
   10.4 g/dL
   121 mg/dL
   5.1 mg/dL
   16 mEq/L
   3.3 mEq/L
   104 mg/dL
   105 mEq/L
   143 mEq/L
   28.7 %
   14.0 K/uL
        [image002.jpg]
                             [**2127-10-8**]  05:48 PM
                             [**2127-10-8**]  08:58 PM
                             [**2127-10-8**]  10:40 PM
                             [**2127-10-9**]  02:47 AM
                             [**2127-10-9**]  03:05 AM
                             [**2127-10-9**]  10:30 AM
                             [**2127-10-9**]  10:36 AM
                             [**2127-10-9**]  01:40 PM
                             [**2127-10-9**]  05:09 PM
                             [**2127-10-9**]  05:14 PM
   WBC
   14.0
   Hct
   33
   31
   30.2
   32
   28.6
   28.7
   Plt
   91
   92
   Cr
   4.7
   5.1
   TCO2
   15
   13
   12
   14
   19
   16
   17
   Glucose
   81
   90
   138
   121
   Other labs: PT / PTT / INR:26.3/45.1/2.5, ALT / AST:29/81, Alk Phos / T
   Bili:60/4.1, Fibrinogen:219 mg/dL, Lactic Acid:5.0 mmol/L, Albumin:3.9
   g/dL, LDH:307 IU/L, Ca++:9.4 mg/dL, Mg++:3.0 mg/dL, PO4:7.3 mg/dL
   Assessment and Plan
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock.
   # Septic Shock: continued leukocytosis with lactic acidosis and now
   hypotension requiring pressor support in setting of severely
   decompensated liver disease.  Patient has been pan-cultured with
   unclear etiology of infection.  To date, most likely source is lung as
   patient was recently treated for PNA, now with copious thick yellow
   secretions, 4+ gram positive cocci on sputum gram stain, and CXR
   showing new left sided and perihilar consolidations suggestive of an
   aspiration PNA given rapidity of evolution.  However, given high fevers
   this AM and onset of convulsions, need to consider other sources.
   - continue broad spectrum abx with vancomycin ( for GPCs),
   ciprofloxacin and flagyl (gram negs and anaerobes for aspiration
   event), and ceftriaxone (SBP prophylaxis)
   - hold off on fluid boluses this AM and use pressor support for MAP >
   60, add vasopressin next if neo is not sufficient
   - Given high fevers and convulsions:  obtain head CT  and then LP if
   not at risk for herniation, consult neurology.   Start empirical
   coverage for viral and bacterial meningitis (start acyclovir,
   ampicillin) in addition to abx regimen.
   - Obtain body CT in addition to head CT per above to look for other
   infectious sources including abscesses, biliary pathology;
   - Skin exam to look for ulcers, other lesions
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Convulsions usually last < 30 seconds and resolve
   spontaneously.  If seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy (BUN is 118), infectious
   (meningitis), ischemic.
   -Head CT today followed by LP
   -Bedside EEG
   -Versed drip PRN convulsions
   -Consult neurology
   -Consider MRI to r/o ischemic causes however would be difficult to do
   this practically given respiratory status
   .
   #. Respiratory: Patient continues to substantially overbreathe
   ventilator with respiratory alkalosis.  Currently is on pressure
   support with PEEP of 10, FiO2 of 40%.  Could be triggering breaths due
   to spasmodic facial grimacing/biting.  Sedation was up-titrated with
   some success although given persistent respiratory distress, switched
   to Assist control.
   -Continue on assist: most recent gas shows improvement in alkalosis.
   Increase sedation as necessary to reduce overbreathing.
   # Altered Mental Status: patient initially presented with acute change
   in mental status and asterixis suggesting hepatic encephalopathy
   triggered by underlying infection, now septic shock.
   - infection work up and empiric treatment as discussed above
   - continue lactulose 30-60 mL TID titrated to [**4-7**] BM per day and
   rifaximin for hepatic encephalopathy
   # Acute on chronic renal failure:  prior Cr baseline of 2.0 now
   elevated to 6.2 in short period with minimal UOP despite substantial
   fluid resuscitation and pressor support concerning for hepatorenal
   syndrome, supported by urine lytes with UNa < 10.
   -          added midodrine yesterday but creatinine continues to
   worsen.  Need to improve renal perfusion; can give albumin and increase
   pressor support to increase MAP > 10
   -          Trend creatinines, ensure that renal is following
   #Thrombocytopenia
   Initially we were concerned with DIC picture given dropping platelets
   however they have since come back up to 110; fibrinogen levels are
   normal and FDP are low 10
 40.  Most likely cause of acute platelet
   drop is worsening of liver disease; no need to transfuse plaetelets.
   INR is stable at 2.5
 2.6.  HCTS are stable and not actively
   bleeding.   Check coags and platelets daily.
   #. ETOH cirrhosis/ESLD: patient with MELD score of 30, currently not a
   transplant candidate.
   - continue treatments for hepatic encephalopathy as discussed above
   - family meeting yesterday; family continues to pursue aggressive tx
   even though Dr [**Last Name (STitle) 1174**] has told them about poor prognosis.  Meeting with
   family again today to discuss further worsening of his prognosis given
   deteriorating renal function, liver function and neurological status.
   .
   #. Nutrition: patient very cachetic with history of poor nutritional
   compliance
   - Consult nutrition and start TPN today
   # FEN: IVF, [**Hospital1 7**] electrolytes with repletion, TPN
   # Prophylaxis: Subutaneous heparin, bowel regimen, octreotide drip, [**Hospital1 7**]
   PPI
   # Access: peripherals
   # Code: FULL
   # Communication: wife, mother and family
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-10-6**] 11:30 PM
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Arterial Line - [**2127-10-8**] 03:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-11 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2127-10-10**] 12:13 PM
 EEG - At [**2127-10-10**] 12:48 PM
 FEVER - 104.3
F - [**2127-10-10**] 08:00 AM
   - continued to have convulsions in AM
   - concern for infectious process, started on meningitis dose
   antibiotics.
   - CT head showed marked edema, hypoattenuation of thalami - hypoxia.
   - CT abdomen - new LLL consolidation, already on abx
   - CT sinus - no sinusitis
   - Neuro consulted - started Keppra, EEG monitoring.  Recommended LP and
   MRI/MRV to look for other etiologies of new onset seizure.
   - U/A dirty on panculture with bacteria and yeast.  Replaced foley,
   resent U/A
   - - Renal function worsened started on hepatorenal dosing of albumin.
   - No new liver recs
   - d/c'd SQH given elevated INR and low platelets.
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2127-10-9**] 06:12 AM
   Acyclovir - [**2127-10-10**] 09:00 AM
   Ceftriaxone - [**2127-10-10**] 10:00 AM
   Ciprofloxacin - [**2127-10-10**] 12:05 PM
   Metronidazole - [**2127-10-11**] 05:01 AM
   Ampicillin - [**2127-10-11**] 06:19 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2127-10-10**] 07:30 AM
   Lorazepam (Ativan) - [**2127-10-10**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-11**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.3
   Tcurrent: 36.7
C (98
   HR: 100 (96 - 137) bpm
   BP: 94/43(58) {86/37(53) - 122/74(89)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,219 mL
                                                                    489 mL
   PO:
             TF:
   IVF:
                                                                  1,709 mL
                                                                    489 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  2,175 mL
                                                                     85 mL
   Urine:
                                                                    275 mL
                                                                     85 mL
   NG:
                                                                  1,800 mL
   Stool:
   Drains:
   Balance:
                                                                     44 mL
                                                                    404 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/24/170/16/-4
   Ve: 11.6 L/min
   PaO2 / FiO2: 425
   Physical Examination
   Cardiovascular: Gen: intubated, sedated
   CV: RRR
   Lungs: CTAB
   Abd: distended, absent Bowel sounds, + fluid wave
   Ext: 2+ peripheral edema
   Neuro: unresponsive
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   57 K/uL
   8.6 g/dL
   116 mg/dL
   6.6 mg/dL
   16 mEq/L
   3.3 mEq/L
   135 mg/dL
   108 mEq/L
   145 mEq/L
   25.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2127-10-9**]  05:14 PM
                             [**2127-10-9**]  10:31 PM
                             [**2127-10-9**]  11:43 PM
                             [**2127-10-10**]  02:06 AM
                             [**2127-10-10**]  04:01 AM
                             [**2127-10-10**]  04:13 AM
                             [**2127-10-10**]  12:21 PM
                             [**2127-10-10**]  02:54 PM
                            [**2127-10-11**]  04:11 AM
                            [**2127-10-11**]  04:31 AM
   WBC
   11.8
   8.9
   8.3
   Hct
   30.9
   30.1
   25.0
   25.5
   Plt
   101
   113
   69
   57
   Cr
   6.2
   6.4
   6.6
   TropT
   0.05
   TCO2
   17
   15
   15
   15
   15
   17
   Glucose
   121
   103
   151
   116
   Other labs: PT / PTT / INR:35.8/57.3/3.7, Lactic Acid:2.7 mmol/L,
   Albumin:4.0 g/dL, Ca++:8.9 mg/dL, Mg++:3.0 mg/dL, PO4:6.5 mg/dL
   Imaging: CXR - LLL Infiltrate, otherwise clear
   Microbiology: Sputum cx [**10-10**] -    GRAM STAIN (Final [**2127-10-10**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED HEALTH MAINTENANCE
 MALNUTRITION
 LIVER FUNCTION ABNORMALITIES
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock.
   # Septic Shock: continued leukocytosis with lactic acidosis and now
   hypotension requiring pressor support in setting of severely
   decompensated liver disease.  Patient has been pan-cultured with
   unclear etiology of infection.  To date, most likely source is lung as
   patient was recently treated for PNA, now with copious thick yellow
   secretions, 4+ gram positive cocci on sputum gram stain, and CXR
   showing new left sided and perihilar consolidations suggestive of an
   aspiration PNA given rapidity of evolution.  However, given high fevers
   and onset of convulsions, need to consider other sources.  PNA is
   likely given CT and Xray findings today.  Elevated fever may have
   central etiology also.
   - continue broad spectrum abx with vancomycin ( for GPCs),
   ciprofloxacin and flagyl (gram negs and anaerobes for aspiration
   event), and ceftriaxone (SBP prophylaxis)
   - hold off on fluid boluses this AM and use pressor support for MAP >
   60, add vasopressin next if neo is not sufficient
   - LP deferred given brain edema and high INR and technical difficulty
   given seizures.   CT  and then LP if not at risk for herniation,
   consult neurology.   Start empirical coverage for viral and bacterial
   meningitis (start acyclovir, ampicillin, meningitis dosed ceftriax) In
   addition to abx regimen.
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Convulsions usually last < 30 seconds and resolve
   spontaneously.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy (BUN is 118), infectious
   (meningitis), ischemic.
   -Bedside EEG
   -Versed drip PRN convulsions
   -Continue Keppra per neurology (bolused on [**10-10**])
   - Ischemia also on differential - however head MRI would not change
   management at this time
   #. Respiratory: Patient continues to substantially overbreathe
   ventilator with respiratory alkalosis.  Currently is on pressure
   support with PEEP of 10, FiO2 of 40%.  Could be triggering breaths due
   to spasmodic facial grimacing/biting.  Sedation was up-titrated with
   some success although given persistent respiratory distress, switched
   to Assist control.
   -Continue on assist: most recent gas shows improvement in alkalosis,
   given new respiratory acidosis.  Increase sedation as necessary to
   reduce overbreathing.
   # Altered Mental Status: patient initially presented with acute change
   in mental status and asterixis suggesting hepatic encephalopathy
   triggered by underlying infection, now septic shock.   Now presents
   with whole brain edema.
   - infection work up and empiric treatment as discussed above
   - continue lactulose 30-60 mL TID titrated to [**4-7**] BM per day and
   rifaximin for hepatic encephalopathy
   # Acute on chronic renal failure:  prior Cr baseline of 2.0 now
   elevated to 6.6 in short period with minimal UOP despite substantial
   fluid resuscitation and pressor support concerning for hepatorenal
   syndrome, supported by urine lytes with UNa < 10.  UOP of 275 cc
   daily.
   -          added midodrine yesterday but creatinine continues to
   worsen.  Need to improve renal perfusion; can give albumin and increase
   pressor support to increase MAP > 10
   -          Trend creatinines
   -          [**Month (only) 51**] require dialysis as renal function could be clouding his
   mental status inadditon to above
   #Thrombocytopenia
   Initially we were concerned with DIC picture given dropping platelets
   however they have since come back up to 110; fibrinogen levels are
   normal and FDP are low 10
 40.  Most likely cause of acute platelet
   drop is worsening of liver disease; no need to transfuse plaetelets.
   INR is stable at 2.5
 2.6.  HCTS are stable and not actively
   bleeding.   Check coags and platelets daily.
   #. ETOH cirrhosis/ESLD: patient with MELD score of 30, currently not a
   transplant candidate.
   - continue treatments for hepatic encephalopathy as discussed above
   - talked to wife yesterday she says she just wants to wait.  Mother
   will decide his code status and make final decisions.
   - Meeting with family again today to discuss further worsening of his
   prognosis given deteriorating renal function, liver function and
   neurological status.
   #. Nutrition: patient very cachetic with history of poor nutritional
   compliance
   - no TF as bowel isn't working
   - consult nutrition and start TPN
   # FEN: IVF, [**Hospital1 7**] electrolytes with repletion, TPN
   # Prophylaxis: Subutaneous heparin, bowel regimen, octreotide drip, [**Hospital1 7**]
   PPI
   # Access: peripherals
   # Code: FULL
   # Communication: wife, mother and family
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-10-6**] 11:30 PM
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Arterial Line - [**2127-10-8**] 03:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-11 10:48:00 Physician Attending Progress Note
Chief Complaint: Repsitory Failure, Renal Failure, Liver Failure,
   Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Kidney function continues worsen
   24 Hour Events:
 PAN CULTURE - At [**2127-10-10**] 12:13 PM
 EEG - At [**2127-10-10**] 12:48 PM
 FEVER - 104.3
F - [**2127-10-10**] 08:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Acyclovir - [**2127-10-10**] 09:00 AM
   Ceftriaxone - [**2127-10-10**] 10:00 AM
   Ciprofloxacin - [**2127-10-10**] 12:05 PM
   Metronidazole - [**2127-10-11**] 05:01 AM
   Ampicillin - [**2127-10-11**] 06:19 AM
   Vancomycin - [**2127-10-11**] 09:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-11**] 08:41 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-10-11**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.6
C (97.9
   HR: 103 (96 - 130) bpm
   BP: 118/58(75) {94/43(58) - 133/74(89)} mmHg
   RR: 21 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,219 mL
                                                                    941 mL
   PO:
             TF:
   IVF:
                                                                  1,709 mL
                                                                    871 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  2,175 mL
                                                                    325 mL
   Urine:
                                                                    275 mL
                                                                    325 mL
   NG:
                                                                  1,800 mL
   Stool:
   Drains:
   Balance:
                                                                     44 mL
                                                                    616 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 22 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/24/170/16/-4
   Ve: 12.8 L/min
   PaO2 / FiO2: 425
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   57 K/uL
   116 mg/dL
   6.6 mg/dL
   16 mEq/L
   3.3 mEq/L
   135 mg/dL
   108 mEq/L
   145 mEq/L
   25.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2127-10-9**]  05:14 PM
                             [**2127-10-9**]  10:31 PM
                             [**2127-10-9**]  11:43 PM
                             [**2127-10-10**]  02:06 AM
                             [**2127-10-10**]  04:01 AM
                             [**2127-10-10**]  04:13 AM
                             [**2127-10-10**]  12:21 PM
                             [**2127-10-10**]  02:54 PM
                            [**2127-10-11**]  04:11 AM
                            [**2127-10-11**]  04:31 AM
   WBC
   11.8
   8.9
   8.3
   Hct
   30.9
   30.1
   25.0
   25.5
   Plt
   101
   113
   69
   57
   Cr
   6.2
   6.4
   6.6
   TropT
   0.05
   TCO2
   17
   15
   15
   15
   15
   17
   Glucose
   121
   103
   151
   116
   Other labs: PT / PTT / INR:35.8/57.3/3.7, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:28/99, Alk Phos / T Bili:33/3.8,
   Fibrinogen:224 mg/dL, Lactic Acid:2.7 mmol/L, Albumin:4.0 g/dL, LDH:344
   IU/L, Ca++:8.9 mg/dL, Mg++:3.0 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED HEALTH MAINTENANCE
 MALNUTRITION
 LIVER FUNCTION ABNORMALITIES
   43 yo male with history of cirrhosis and now with admission with sepsis
   , worsening renal failure/HRS, respiratory alkalosis/respiratory
   failure, liver failure
   1)Respiratory Failure/Sepsis- Cont to treat LLL pneumonia --
   CTX/vanco/Cipro/Flagyl.  Has ongoing respiratory alkolosis but stable
   2)Sepsis-Off pressors starting this AM.  Treating for pneumonia and
   possibility of meningitis and SBP
   3)Altered Mental Status with Intermittent Convulsions
 Being followed
   by neurology.  Benzos prn
   4)Cirrhosis-
   -Lactulose
   -Thiamine/MVI
   -Appreciate support of Dr. [**Last Name (STitle) 1174**] and GI service
   5)Acute Renal Failure- Continues to worsen
   -Midodrine/Octreotide
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Arterial Line - [**2127-10-8**] 03:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2127-10-12 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**10-10**]
   - continued to have convulsions in AM
   - concern for infectious process, started on meningitis dose
   antibiotics.
   - CT head showed marked edema, hypoattenuation of thalami - hypoxia.
   - CT abdomen - new LLL consolidation, already on abx
   - CT sinus - no sinusitis
   - Neuro consulted - started Keppra, EEG monitoring.  Recommended LP and
   MRI/MRV to look for other etiologies of new onset seizure.
   - U/A dirty on panculture with bacteria and yeast.  Replaced foley,
   resent U/A
   - - Renal function worsened started on hepatorenal dosing of albumin.
   - No new liver recs
   - d/c'd SQH given elevated INR and low platelets.
   [**10-11**]
   -Neuro says still having seizures - recommend changing Keppra from 500
   [**Hospital1 7**] to 750 mg [**Hospital1 7**].  Also advised that the presence of continued
   seizures makes the prognosis increasingly poor.
   -Noted by nurse to have decerebrate posturing during the day.
   -Lactulose enemas not working, now with decreased PO residuals -
   changed lactulose regimen to PO.
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2127-10-11**] 09:00 AM
   Acyclovir - [**2127-10-11**] 10:30 AM
   Ceftriaxone - [**2127-10-11**] 12:00 PM
   Ciprofloxacin - [**2127-10-11**] 02:01 PM
   Metronidazole - [**2127-10-11**] 08:57 PM
   Ampicillin - [**2127-10-12**] 06:18 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-11**] 08:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-12**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 110 (88 - 110) bpm
   BP: 123/69(88) {103/50(67) - 136/71(90)} mmHg
   RR: 20 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  3,622 mL
                                                                    418 mL
   PO:
             TF:
   IVF:
                                                                  2,972 mL
                                                                    328 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                    725 mL
                                                                    193 mL
   Urine:
                                                                    725 mL
                                                                    193 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,897 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.42/25/287/15/-5
   Ve: 11.8 L/min
   PaO2 / FiO2: 717
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   8.4 g/dL
   110
   6.4 mg/dL
   15 mEq/L
   4.0 mEq/L
   140 mg/dL
   112 mEq/L
   148 mEq/L
   25.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2127-10-10**]  04:13 AM
                             [**2127-10-10**]  12:21 PM
                             [**2127-10-10**]  02:54 PM
                            [**2127-10-11**]  04:11 AM
                            [**2127-10-11**]  04:31 AM
                            [**2127-10-11**]  04:00 PM
                            [**2127-10-11**]  04:50 PM
                            [**2127-10-11**]  10:00 PM
                            [**2127-10-12**]  02:46 AM
                            [**2127-10-12**]  04:00 AM
   WBC
   8.9
   8.3
   6.5
   Hct
   25.0
   25.5
   23.4
   25.1
   Plt
   69
   57
   42
   Cr
   6.4
   6.6
   6.4
   6.4
   TCO2
   15
   15
   17
   17
   Glucose
   151
   116
   120
   103
   109
   88
   110
   Other labs: PT / PTT / INR:36.7/55.4/3.8, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:29/113, Alk Phos / T Bili:27/3.5,
   Fibrinogen:169 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:4.0 g/dL, LDH:332
   IU/L, Ca++:8.9 mg/dL, Mg++:2.9 mg/dL, PO4:6.1 mg/dL
   Imaging: CXR [**10-10**]:
   There is patchy airspace opacity in the left lower lobe concerning for
   pneumonia.
   CT abdomen:
   CONCLUSION:
   1. There is new mild small bowel dilatation. The wall is not thickened.
   A
   transition point is not seen. This is most likely due to ileus. The
   colon is
   decompressed.
   2. Extensive ascites as before, with evidence of cirrhotic liver and
   portal
   hypertension with splenomegaly.
   3. Left lower lobe consolidation, which is new since the previous CT.
   head CT:
   IMPRESSION: Marked interval increase of white and [**Doctor Last Name **] matter
   differentiation, with significant hypoattenuation of the thalami,
   highly
   concerning for hypoxic injury.
   Microbiology: [**10-10**]: Respiratory Culture:  Klebsiella (sensitive to
   bactrim, gent, meropenem) + coag + staph
   urine cultures:  yeast
   blood cultures: pending
   Assessment and Plan
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock.
   # Septic Shock: Pt has leukocytosis with improving  lactic acidosis and
   hypotension requiring pressor support in setting of severely
   decompensated liver disease.   PNA is evident given CT and Xray
   findings today.  Elevated fever may have central etiology also.
   -  Current abx regimen:  Vanc + amp + ceftriaxone + acyclovir (day 3)
   for meningitis coverage and cipro + flagyl (day 5) for coverage of
   aspiration PNA.  Klebsiella not being covered (sensitive to meropenem,
   gentamycin, and bactrim only).  Urine cultures show yeast, also not
   being covered (5 WBCs on UA).  Could simplify regimen by starting
   meropenem to replace cipro + flagyl.  Start fluconazole.
   - avoid fluid boluses this AM and use pressor support for MAP > 60, add
   vasopressin next if neo is not sufficient
   - LP deferred given brain edema and high INR and technical difficulty
   given seizures.   On empirical coverage for viral and bacterial
   meningitis (start acyclovir, ampicillin, meningitis dosed ceftriax) In
   addition to abx regimen.
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Convulsions usually last < 30 seconds and resolve
   spontaneously.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Started on Keppra, and seizures have improved although since
   continue, increased Keppra yesterday.
   - f/u EEG
   - Ativan PRN convulsions (use in caution)
   -Continue Keppra per neurology (started on [**10-10**])
   - Ischemia also on differential - however head MRI would not change
   management at this time
   #. Respiratory: Patient continues to substantially overbreathe
   ventilator with respiratory alkalosis.  Currently is on Assist support
   with PEEP of 10, FiO2 of 40%.  Could be triggering breaths due to
   spasmodic facial grimacing/biting.   Improved respirations with current
   settings.
   -Continue on assist: most recent gas shows improvement in alkalosis,
   given new respiratory acidosis.
   - avoid sedation
   # Altered Mental Status: patient initially presented with acute change
   in mental status and asterixis suggesting hepatic encephalopathy
   triggered by underlying infection, now septic shock.   Now presents
   with whole brain edema.
   - Steroids could help with edema but would hold as could worsen
   infectious source.
   - infection work up and empiric treatment as discussed above until more
   definitive data available
   - continue lactulose 30-60 mL TID titrated to [**4-7**] BM per day and
   rifaximin for hepatic encephalopathy
   - currently not having BM despite lactulose enema
   # Acute on chronic renal failure:  prior Cr baseline of 2.0 now
   elevated to 6.6 in short period with minimal UOP despite substantial
   fluid resuscitation and pressor support concerning for hepatorenal
   syndrome, supported by urine lytes with UNa < 10.  UOP of 275 cc over
   last 24hr
   -  Added midodrine but creatinine continues to worsen.
   - Albumin was given at doses for hepatorenal.
   -  Trend creatinines
   -  Dialysis not indicated renal function believed to be [**2-3**] to renal
   disease
   -  Holding off diuretics given requirement of pressors
   #Thrombocytopenia
   Initially we were concerned with DIC picture: platelets have dropped
   over last 24 hours to 42; could be secondary to worsening liver disease
   although DIC still possible.  Fibrinogen levels are normal and coags
   are relatively stable.
   -Check platelets and coags this evening
   -Check FDP
   -No need to currently transfuse given no overt bleeding
   #. ETOH cirrhosis/ESLD: patient with MELD score of 30, currently not a
   transplant candidate.
   - continue treatments for hepatic encephalopathy as discussed above
   - Family currently wants to pursue aggressive care.
   - Daily updates to family
   #. Nutrition: patient very cachetic with history of poor nutritional
   compliance
   - no TF as bowel isn't working
   - consult nutrition and start TPN
   # FEN: IVF, [**Hospital1 7**] electrolytes with repletion, TPN
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: peripherals
   # Code: FULL
   # Communication: wife, mother and family
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Arterial Line - [**2127-10-8**] 03:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-12 10:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Liver Failure, Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Off levophed gtt since yesterday AM.
   Continues to have evidence of seizure activity
   24 Hour Events:
   SBP in 90s this AM
   History obtained from Patient
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2127-10-11**] 09:00 AM
   Ceftriaxone - [**2127-10-11**] 12:00 PM
   Ciprofloxacin - [**2127-10-11**] 02:01 PM
   Metronidazole - [**2127-10-11**] 08:57 PM
   Ampicillin - [**2127-10-12**] 06:18 AM
   Acyclovir - [**2127-10-12**] 10:14 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-12**] 08:23 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Gastrointestinal: Diarrhea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-10-12**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 101 (88 - 110) bpm
   BP: 98/56(72) {98/50(67) - 136/71(90)} mmHg
   RR: 20 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  3,622 mL
                                                                    787 mL
   PO:
             TF:
             14 mL
   IVF:
                                                                  2,972 mL
                                                                    522 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                    725 mL
                                                                    283 mL
   Urine:
                                                                    725 mL
                                                                    283 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,897 mL
                                                                    504 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 1,010 (1,010 - 1,010) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.42/25/287/15/-5
   Ve: 14.4 L/min
   PaO2 / FiO2: 717
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   42 K/uL
   110
   6.4 mg/dL
   15 mEq/L
   4.0 mEq/L
   140 mg/dL
   112 mEq/L
   148 mEq/L
   25.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2127-10-10**]  04:13 AM
                             [**2127-10-10**]  12:21 PM
                             [**2127-10-10**]  02:54 PM
                            [**2127-10-11**]  04:11 AM
                            [**2127-10-11**]  04:31 AM
                            [**2127-10-11**]  04:00 PM
                            [**2127-10-11**]  04:50 PM
                            [**2127-10-11**]  10:00 PM
                            [**2127-10-12**]  02:46 AM
                            [**2127-10-12**]  04:00 AM
   WBC
   8.9
   8.3
   6.5
   Hct
   25.0
   25.5
   23.4
   25.1
   Plt
   69
   57
   42
   Cr
   6.4
   6.6
   6.4
   6.4
   TCO2
   15
   15
   17
   17
   Glucose
   151
   116
   120
   103
   109
   88
   110
   Other labs: PT / PTT / INR:36.7/55.4/3.8, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:29/113, Alk Phos / T Bili:27/3.5,
   Fibrinogen:169 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:4.0 g/dL, LDH:332
   IU/L, Ca++:8.9 mg/dL, Mg++:2.9 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED HEALTH MAINTENANCE
 MALNUTRITION
 LIVER FUNCTION ABNORMALITIES
   43 yo male with history of cirrhosis and now with admission with sepsis
   , worsening renal failure/HRS, respiratory alkalosis/respiratory
   failure, liver failure
   1)Respiratory Failure/Sepsis- Cont to treat LLL pneumonia -- vanco/CTX
   --> will replace cipro/flagyl with meropenem given Klebsiella
   sensitivities.  Has ongoing respiratory alkolosis but stable.  Off
   pressors at the moment
   2)Sepsis - Off pressors starting this AM - will restart low dose
   levophed to improve reanl perfusion and keep MAP above 65.  Treating
   for pneumonia and possibility of meningitis (ACV/amp) and SBP
   3)Altered Mental Status with Intermittent Convulsions
 Still ongoing sz
   activity --> continue Ativan as need.  Cont EEG monitoring
   4)Cirrhosis-
   Lactulose, Thiamine, MVI
   5)Acute Renal Failure- No improvement
   -Midodrine/Octreotide
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2127-10-12**] 08:24 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Arterial Line - [**2127-10-8**] 03:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2127-10-13 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -reordered urine cxs given yeast in prior urine cxs, want to see if
   cleared after changing foley
   -PM HCT was low (26 -> 23) no overt evidence of bleeding from NG or
   from below in flexiseal; rechecking HCT at midnight which showed
   -platelets trending down slightly but coags otherwise stable,
   rechecking PLT at night which showed
   -not tolerating tube feeds with residuals > 100, called nutrition
   consult; can start TPN orders tomorrow AM
   -slow trend down in urine output, at end of day was 1020 ccs/ but over
   last 10 hours urine output slowed to 40 ccs/hr
   -had frank blood in Foley bag at night; Hcts stable
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2127-10-11**] 09:00 AM
   Ciprofloxacin - [**2127-10-11**] 02:01 PM
   Metronidazole - [**2127-10-11**] 08:57 PM
   Acyclovir - [**2127-10-12**] 10:14 AM
   Ceftriaxone - [**2127-10-12**] 12:24 PM
   Meropenem - [**2127-10-13**] 06:15 AM
   Ampicillin - [**2127-10-13**] 06:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-12**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-13**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 95 (80 - 120) bpm
   BP: 106/57(74) {89/42(56) - 116/73(86)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  1,673 mL
                                                                    435 mL
   PO:
             TF:
                                                                     33 mL
   IVF:
                                                                  1,140 mL
                                                                    435 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  1,067 mL
                                                                    150 mL
   Urine:
                                                                    617 mL
                                                                    150 mL
   NG:
                                                                     50 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                    606 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 1,010 (1,010 - 1,010) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.44/23/194/13/-5
   Ve: 11.7 L/min
   PaO2 / FiO2: 485
   Physical Examination
   Cardiovascular: Gen: obtunded, no response to voice or pain
   CV: RRR, no m/r/g
   Lungs: clear anteriorly
   Abd: Distended, no BS, + Fluid wave
   Ext: 1+ edema symmetrical bilaterally
   Neuro:
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   46 K/uL
   8.0 g/dL
   89 mg/dL
   6.9 mg/dL
   13 mEq/L
   3.8 mEq/L
   149 mg/dL
   115 mEq/L
   152 mEq/L
   24.3 %
   6.9 K/uL
        [image002.jpg]
                            [**2127-10-11**]  04:31 AM
                            [**2127-10-11**]  04:00 PM
                            [**2127-10-11**]  04:50 PM
                            [**2127-10-11**]  10:00 PM
                            [**2127-10-12**]  02:46 AM
                            [**2127-10-12**]  04:00 AM
                            [**2127-10-12**]  05:43 PM
                            [**2127-10-12**]  05:53 PM
                            [**2127-10-12**]  11:34 PM
                            [**2127-10-13**]  02:41 AM
   WBC
   6.5
   5.2
   6.9
   Hct
   23.4
   25.1
   22.4
   23.8
   24.3
   Plt
   42
   36
   37
   46
   Cr
   6.4
   6.4
   6.6
   6.9
   TCO2
   17
   17
   16
   Glucose
   120
   103
   109
   88
   110
   101
   91
   89
   Other labs: PT / PTT / INR:35.4/50.7/3.6, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:29/113, Alk Phos / T Bili:27/3.5,
   Fibrinogen:169 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:4.0 g/dL, LDH:332
   IU/L, Ca++:8.9 mg/dL, Mg++:3.0 mg/dL, PO4:6.9 mg/dL
   Imaging: CXR - LLL consolidation, prominent right hilar opacification.
   Microbiology:  URINE CULTURE ([**10-10**]):
         YEAST.    >100,000 ORGANISMS/ML..
   RESPIRATORY CULTURE  [**2127-10-10**]):
         Commensal Respiratory Flora Absent.
         KLEBSIELLA PNEUMONIAE.    MODERATE GROWTH.
         STAPH AUREUS COAG +.    MODERATE GROWTH.
            Oxacillin RESISTANT Staphylococci MUST be reported as also
            RESISTANT to other penicillins, cephalosporins, carbacephems,
            carbapenems, and beta-lactamase inhibitor combinations.
            Rifampin should not be used alone for therapy.
            Please contact the Microbiology Laboratory ([**6-/2424**])
   immediately if
            sensitivity to clindamycin is required on this patient's
   isolate.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                KLEBSIELLA PNEUMONIAE
                                |          STAPH AUREUS COAG +
                                |          |
   AMPICILLIN/SULBACTAM--  =>32 R
   CEFAZOLIN-------------  =>64 R
   CEFEPIME--------------       R
   CEFTAZIDIME-----------  =>64 R
   CEFTRIAXONE-----------  =>64 R
   CEFUROXIME------------  =>64 R
   CIPROFLOXACIN---------   =>4 R
   ERYTHROMYCIN----------              =>8 R
   GENTAMICIN------------   <=1 S    <=0.5 S
   LEVOFLOXACIN----------              =>8 R
   MEROPENEM-------------<=0.25 S
   OXACILLIN-------------              =>4 R
   PIPERACILLIN/TAZO----- =>128 R
   RIFAMPIN--------------             =>32 R
   TETRACYCLINE----------              <=1 S
   TOBRAMYCIN------------     8 I
   TRIMETHOPRIM/SULFA----   <=1 S    <=0.5 S
   VANCOMYCIN------------              <=1 S
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED HEALTH MAINTENANCE
 MALNUTRITION
 LIVER FUNCTION ABNORMALITIES
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock, reduced mental status, new whole brain edema, hepatorenal
   syndrome, with overall poor prognosis..
   ##. ETOH cirrhosis/ESLD: patient with MELD score of 30, currently not a
   transplant candidate.
   - tx for hepatic encephalopathy with laculose po tid titrate to [**3-5**]  BM
   daily, + enemas if not meeting goal  (400cc output yesterday)
   - Family currently wants to pursue aggressive care.
   - Daily updates to family
   - Daily neuro exams
   # Septic Shock: Pt has leukocytosis with improving  lactic acidosis and
   hypotension requiring pressor support in setting of severely
   decompensated liver disease.   PNA is evident given CT and Xray
   findings today.  ? UTI?  All blood cultures negative/NGTD.
   -  Known Klebsiella and MRSA PNA.  ? Meningitis given fevers and new
   onset seizure.
   Current abx regimen:  Vanc + amp + ceftriaxone + acyclovir (day 3) for
   meningitis coverage and  meropenem (day 1) for coverage of Klebsiella
   PNA.  Vanco also covering MRSA PNA.   D/c Acyclovir.
   - consider Bactrim to cover Klebsiella PNA and MRSA PNA.
   -  Urine + Yeast, changed foley.  Rpt Urine Cx pending
   - avoid fluid boluses in favor of pressor support for MAP > 60
   - LP deferred given brain edema and high INR and technical difficulty
   given seizures.   On empirical coverage for viral and bacterial
   meningitis (acyclovir, ampicillin, meningitis dosed ceftriax)
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Seizures have improved since started on Keppra
   - f/u EEG - still pending
   - Ativan PRN convulsions (use in caution)
   - Continue Keppra per neurology (started on [**10-10**])
   - Ischemia also on differential - however head MRI would not change
   management at this time
   - LP deferred given brain edema.
   #. Respiratory: Patient continues to substantially overbreathe
   ventilator with respiratory alkalosis.  Currently is on Assist support
   with PEEP of 10, FiO2 of 40%.  Could be triggering breaths due to
   spasmodic facial grimacing/biting.   Improved respirations with current
   settings.
   -Continue on assist: most recent gas shows improvement in alkalosis,
   given AG metabolic acidosis (likely from renal failure)
   # Altered Mental Status: patient initially presented with acute change
   in mental status and asterixis suggesting hepatic encephalopathy
   triggered by underlying infection, now septic shock.   Now presents
   with whole brain edema.
   - Steroids could help with edema but would hold as could worsen
   infectious source
   - infection work up and empiric treatment as discussed above until more
   definitive data available
   - continue lactulose 30-60 mL TID titrated to [**4-7**] BM per day and
   rifaximin for hepatic encephalopathy
   #Hematuria
 started overnight, continues to have bloody urine.  Ddx is
   trauma, stones, carcinoma, spontaneous bleed.  Will wait to see if
   urine clears.  Hold off on additional testing in acute setting.
   - follow Hct
   - check AM urine for clarity
   # Anemia - Hct dropping.  No obvious bleeding.   Hct 24.3
   - Guaic stools
   - PM Hct
   - Goal Hct > 21
   - Active T&S
   # Acute on chronic renal failure:  prior Cr baseline of 2.0 now
   elevated to 6.9 in short period with minimal UOP despite substantial
   fluid resuscitation and pressor support concerning for hepatorenal
   syndrome, supported by urine lytes with UNa < 10.  UOP of 275 cc over
   last 24hr
   -  Added midodrine but creatinine continues to worsen.
   - Albumin was given at doses for hepatorenal.
   -  Trend creatinines
   -  Dialysis not indicated renal function believed to be [**2-3**] to renal
   disease
   -  Holding off diuretics given requirement of pressors
   #Thrombocytopenia- Likely [**2-3**] to worsening liver disease.  DIC was
   considered, but fibrinogen level normal.  Coags rela were concerned
   with DIC picture: platelets have dropped over last 24 hours to 42;
   could be secondary to worsening liver disease although DIC still
   possible.  Fibrinogen levels are normal and coags are relatively stable
   at 3.8.
   - [**Hospital1 7**] platelets and coags this evening
   -Check FDP is significant change
   #. Nutrition: patient very cachetic with history of poor nutritional
   compliance
   - no TF as bowel isn't working
   - consult nutrition and start TPN
   # FEN: IVF, [**Hospital1 7**] electrolytes with repletion, start TPN today
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: IJ, Aline
   # Code: FULL
   # Communication: wife, mother and family
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Arterial Line - [**2127-10-8**] 03:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-13 10:50:00 Physician Attending Progress Note
Chief Complaint: Liver failure, renal failure, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   hematuria overnight
   24 Hour Events:
   600cc u/o for previous day
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-10-11**] 02:01 PM
   Metronidazole - [**2127-10-11**] 08:57 PM
   Acyclovir - [**2127-10-12**] 10:14 AM
   Ceftriaxone - [**2127-10-12**] 12:24 PM
   Meropenem - [**2127-10-13**] 06:15 AM
   Ampicillin - [**2127-10-13**] 06:30 AM
   Vancomycin - [**2127-10-13**] 08:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Parenteral nutrition
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-10-13**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 100 (80 - 120) bpm
   BP: 101/55(70) {89/42(56) - 113/73(86)} mmHg
   RR: 21 (19 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  1,673 mL
                                                                    655 mL
   PO:
             TF:
                                                                     33 mL
   IVF:
                                                                  1,140 mL
                                                                    655 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  1,067 mL
                                                                    210 mL
   Urine:
                                                                    617 mL
                                                                    210 mL
   NG:
                                                                     50 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                    606 mL
                                                                    445 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.44/23/194/13/-5
   Ve: 13.4 L/min
   PaO2 / FiO2: 485
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, pupils small but reactive
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   46 K/uL
   89 mg/dL
   6.9 mg/dL
   13 mEq/L
   3.8 mEq/L
   149 mg/dL
   115 mEq/L
   152 mEq/L
   24.3 %
   6.9 K/uL
        [image002.jpg]
                            [**2127-10-11**]  04:31 AM
                            [**2127-10-11**]  04:00 PM
                            [**2127-10-11**]  04:50 PM
                            [**2127-10-11**]  10:00 PM
                            [**2127-10-12**]  02:46 AM
                            [**2127-10-12**]  04:00 AM
                            [**2127-10-12**]  05:43 PM
                            [**2127-10-12**]  05:53 PM
                            [**2127-10-12**]  11:34 PM
                            [**2127-10-13**]  02:41 AM
   WBC
   6.5
   5.2
   6.9
   Hct
   23.4
   25.1
   22.4
   23.8
   24.3
   Plt
   42
   36
   37
   46
   Cr
   6.4
   6.4
   6.6
   6.9
   TCO2
   17
   17
   16
   Glucose
   120
   103
   109
   88
   110
   101
   91
   89
   Other labs: PT / PTT / INR:35.4/50.7/3.6, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:29/113, Alk Phos / T Bili:27/3.5,
   Fibrinogen:169 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:4.0 g/dL, LDH:332
   IU/L, Ca++:8.9 mg/dL, Mg++:3.0 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED HEALTH MAINTENANCE
 MALNUTRITION
 LIVER FUNCTION ABNORMALITIES
   43 yo male with history of cirrhosis and now with admission with sepsis
   , worsening renal failure/HRS, respiratory alkalosis/respiratory
   failure, liver failure
   1)Respiratory Failure/Sepsis- Cont to treat LLL pneumonia --
   vanco/CTX/[**Last Name (un) 614**].  Stable respiratory alkalosis. Off pressors.
   2)Sepsis - Off pressors ssince yest AM
   3)Altered Mental Status with Intermittent Convulsions
 Head CT from
   [**10-10**] with loss of grey/white matter differention and diffuse edema.
   Ativan prn.
   4)Cirrhosis-
   Lactulose, Thiamine, MVI
   5)Acute Renal Failure-
   -Midodrine/Octreotide
   6)Hematuria: Follow for now - possibly [**2-3**] Foley trauma.
   Very poor overall prognosis.  Will meet with family in next 1-2 days to
   update
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Arterial Line - [**2127-10-8**] 03:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2127-10-15 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neuro recs: continued seizures, med changes to decrease Keprpra, add
   fosphenytoin in bolus (rec 20mg/kg, initially given 2mg/kg, corrected
   with additiona of 18mg/kg) and [**Hospital1 7**] and check level in am
   - A line dislodged
   - tenative family meeting with Dr. [**Last Name (STitle) 1174**] at 4 or 5pm today (he will
   call), Neuro NOT aware but should also be notified
   - SC octreotide started
   - increased free water flushes and decreased lactulose
   - Bp fell to 80s/40s, lowest MAP 49 after fosphenytoin bolus and
   position change, received 250mL bolus x2, started levo
   - Hypernatremia
   - HypoK
   - Seizure activity at 0600, 1mg ativan given
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Acyclovir - [**2127-10-12**] 10:14 AM
   Vancomycin - [**2127-10-13**] 08:05 AM
   Ceftriaxone - [**2127-10-14**] 12:30 PM
   Meropenem - [**2127-10-14**] 03:53 PM
   Ampicillin - [**2127-10-14**] 05:43 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-14**] 07:55 PM
   Fosphenytoin - [**2127-10-14**] 11:00 PM
   Lorazepam (Ativan) - [**2127-10-15**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-15**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 94 (83 - 111) bpm
   BP: 106/62(71) {80/39(49) - 118/77(86)} mmHg
   RR: 20 (19 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  3,029 mL
                                                                    782 mL
   PO:
             TF:
                                                                    191 mL
                                                                    170 mL
   IVF:
                                                                    960 mL
                                                                    612 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                     90 mL
   Urine:
                                                                    615 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    714 mL
                                                                    692 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 99%
   ABG: ///15/
   Ve: 11.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   65 K/uL
   8.6 g/dL
   171 mg/dL
   7.0 mg/dL
   15 mEq/L
   3.3 mEq/L
   166 mg/dL
   118 mEq/L
   155 mEq/L
   27.1 %
   13.9 K/uL
        [image002.jpg]
                            [**2127-10-12**]  02:46 AM
                            [**2127-10-12**]  04:00 AM
                            [**2127-10-12**]  05:43 PM
                            [**2127-10-12**]  05:53 PM
                            [**2127-10-12**]  11:34 PM
                            [**2127-10-13**]  02:41 AM
                            [**2127-10-13**]  06:00 PM
                            [**2127-10-14**]  03:50 AM
                            [**2127-10-14**]  10:00 AM
                            [**2127-10-15**]  03:29 AM
   WBC
   6.5
   5.2
   6.9
   8.7
   13.9
   Hct
   25.1
   22.4
   23.8
   24.3
   25.6
   27.3
   27.1
   Plt
   42
   36
   37
   46
   41
   44
   65
   Cr
   6.4
   6.6
   6.9
   7.1
   6.9
   7.0
   TCO2
   16
   Glucose
   88
   110
   101
   91
   89
   116
   167
   179
   171
   Other labs: PT / PTT / INR:36.8/53.3/3.8, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:38/87, Alk Phos / T Bili:30/3.7,
   Fibrinogen:169 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:8.7 mg/dL, Mg++:2.9 mg/dL, PO4:7.2 mg/dL
   Imaging: CXR from [**10-14**]: Consolidation in the lower lungs which
   developed since [**10-6**] has continued to progress consistent with
   worsening pneumonia, particularly on the left.  Heart size is normal.
   No pulmonary edema or appreciable pleural effusion.
   With the chin down, tip of the ET tube no more than 16 mm from the
   carina is
   only 1 or 2 cm below optimal placement. Nasogastric tube passes into
   the stomach and out of view. Right jugular line tip is partially
   obscured, at least as far as the upper right atrium.
   Microbiology: [**10-9**]: sputum - klebsiella ([**Last Name (un) 614**], gent, bactrim) and MRSA
   [**10-12**]: repeat Ucx continuing to grow 100,000 colonies of yeast
   Bcxs pending
   Assessment and Plan
   Assessment and Plan
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock, reduced mental status, new whole brain edema, hepatorenal
   syndrome, with overall poor prognosis..
   # Altered Mental Status/Cerebral edema: patient initially presented
   with acute change in mental status and asterixis suggesting hepatic
   encephalopathy triggered by underlying infection, now septic shock.
   Now presents with whole brain edema.  Neuro exam slightly improved.
   -decrease Keprpra, add fosphenytoin in bolus (rec 20mg/kg, initially
   given 2mg/kg, corrected with additiona of 18mg/kg) and [**Hospital1 7**] and check
   level in am
   - Continuing empiric treatment for meningitis
   - continue decreased dose of lactulose 30 mL TID for hepatic
   encephalopathy
   - Neuro recs: poor prognosis
   - Family currently wants to pursue aggressive care.
   - Daily updates to family
   - Daily neuro exams
   # Septic Shock: Pt has WBC count trending up, continued hypotension
   requiring levophed in setting of severely decompensated liver
   disease.   PNA is evident given CT and Xray findings today.  ? UTI?
   All blood cultures negative/NGTD.
   -  For pneumonia:  known Klebsiella PNA + MRSA PNA however should be
   considered a ventilator acquired PNA so should be double covering for
   pseudomonas, especially in face of worsening WBC, increased pressor
   support, and worsening CXR.  Currently on vanc (day 6) and [**Last Name (un) 614**] (day 3)
   specifically to cover MRSA and Klebs but should add cipro (gent
   contradinx w/ such bad renal disease)
   - For meningitis coverage, continue vanc, amp and ceftriaxone (day 6).
   deferring LP as likely to be low yield since been on abx already 6 days
   - Urine repeat cx growing yeast, add fluconazole (or another drug that
   is not hepatically cleared or has hepatic insult)
   - avoid fluid boluses in favor of pressor support for MAP > 60
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Seizures have improved since started on Keppra.  Had
   increased seizure activity [**10-14**] x2, improved with 1mg Ativan
   - f/u EEG - still pending
   -Neuro recs: med changes to decrease Keprpra, add fosphenytoin in bolus
   (rec 20mg/kg, initially given 2mg/kg, corrected with additiona of
   18mg/kg) and [**Hospital1 7**] and check level in am;
   prognosis for meaningful recovery low
   - Ativan PRN convulsions (use in caution)
   # ETOH cirrhosis/ESLD: patient with MELD score of 30, currently not a
   transplant candidate.
   - tx for hepatic encephalopathy with laculose po tid titrate to [**3-5**]  BM
   daily, + enemas if not meeting goal  (400cc output yesterday)
   #. Respiratory: Patient continues to substantially overbreathe
   ventilator with respiratory alkalosis.  Currently is on Assist support
   with PEEP of 10, FiO2 of 40%.  Could be triggering breaths due to
   spasmodic facial grimacing/biting.   Improved respirations with current
   settings.
   -Continue on assist: most recent gas shows improvement in alkalosis,
   given AG metabolic acidosis (likely from renal failure)
   # Anemia - Hct stable.  No obvious bleeding.   Hct 27.3
   - PM Hct
   - Goal Hct > 21
   - Active T&S
   # Acute on chronic renal failure:  prior Cr baseline of 2.0 now
   elevated to 7 in short period with minimal UOP despite substantial
   fluid resuscitation and pressor support concerning for hepatorenal
   syndrome, supported by urine lytes with UNa < 10.  UOP of 390cc over
   last 24hr
   -  On octreotide and midodrine but creatinine continues to worsen.
   -  Albumin was given at doses for hepatorenal [**10-12**].  Repeat albumin
   infusion, especially in setting of hypotension.
   -  Trend creatinines
   -  Dialysis not indicated renal function believed to be [**2-3**] to renal
   disease
   # Hypernatremia: Sodium increased to 152 yesterday, this am 153
   - Free water bolus 150cc q4hr, titrate up to 200 cc q4 hrs
   - Decreased lactulose but would not decrease further given continued
   encephalopathy
   #Hematuria
 started [**10-12**], now clearing.  Likely trauma alsod consider
   stones, carcinoma, spontaneous bleed.  Continue to monitor.  Hold off
   on additional testing in acute setting.
   - Hct stable
   - continue to monitor urine
   #Thrombocytopenia- Likely [**2-3**] to worsening liver disease.  DIC was
   considered, but fibrinogen level normal.  Coags rela were concerned
   with DIC picture: platelets satble at 44; could be secondary to
   worsening liver disease although DIC still possible.  Fibrinogen levels
   are normal and coags are relatively stable at 3.8.
   -Plaletets stable; follow daily
   #. Nutrition: patient very cachetic with history of poor nutritional
   compliance
   - Continued TF
   # FEN: IVF, [**Hospital1 7**] electrolytes with repletion, TF
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: IJ, Aline
   # Code: FULL
   # Communication: wife, mother and family
   # Disposition: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2127-10-15**] 12:21 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-15 10:44:00 Physician Attending Progress Note
Chief Complaint: Liver failure, Respiratory Failure, Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Decrease in BP in setting of fosphenytoin bolus - did not improve with
   500 cc of NS --> levophed restarted
   1mg of Ativan this AM for further seizure activity
   24 Hour Events:
 ARTERIAL LINE - STOP [**2127-10-14**] 03:44 PM --> came out last PM with
   patient movment
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2127-10-13**] 08:05 AM
   Ceftriaxone - [**2127-10-14**] 12:30 PM
   Meropenem - [**2127-10-14**] 03:53 PM
   Ampicillin - [**2127-10-14**] 05:43 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-14**] 07:55 PM
   Fosphenytoin - [**2127-10-14**] 11:00 PM
   Lorazepam (Ativan) - [**2127-10-15**] 06:20 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-10-15**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 87 (83 - 111) bpm
   BP: 102/59(69) {80/39(49) - 118/77(86)} mmHg
   RR: 20 (19 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  3,029 mL
                                                                    872 mL
   PO:
             TF:
                                                                    191 mL
                                                                    207 mL
   IVF:
                                                                    960 mL
                                                                    665 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                    118 mL
   Urine:
                                                                    615 mL
                                                                    118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    714 mL
                                                                    754 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 98%
   ABG: ///15/
   Ve: 11.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   65 K/uL
   171 mg/dL
   7.0 mg/dL
   15 mEq/L
   3.3 mEq/L
   166 mg/dL
   118 mEq/L
   155 mEq/L
   27.1 %
   13.9 K/uL
        [image002.jpg]
                            [**2127-10-12**]  02:46 AM
                            [**2127-10-12**]  04:00 AM
                            [**2127-10-12**]  05:43 PM
                            [**2127-10-12**]  05:53 PM
                            [**2127-10-12**]  11:34 PM
                            [**2127-10-13**]  02:41 AM
                            [**2127-10-13**]  06:00 PM
                            [**2127-10-14**]  03:50 AM
                            [**2127-10-14**]  10:00 AM
                            [**2127-10-15**]  03:29 AM
   WBC
   6.5
   5.2
   6.9
   8.7
   13.9
   Hct
   25.1
   22.4
   23.8
   24.3
   25.6
   27.3
   27.1
   Plt
   42
   36
   37
   46
   41
   44
   65
   Cr
   6.4
   6.6
   6.9
   7.1
   6.9
   7.0
   TCO2
   16
   Glucose
   88
   110
   101
   91
   89
   116
   167
   179
   171
   Other labs: PT / PTT / INR:36.8/53.3/3.8, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:38/87, Alk Phos / T Bili:30/3.7,
   Fibrinogen:169 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:8.7 mg/dL, Mg++:2.9 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED HEALTH MAINTENANCE
 MALNUTRITION
 LIVER FUNCTION ABNORMALITIES
   43 yo male with history of cirrhosis and now with admission with sepsis
   , worsening renal failure/HRS, respiratory alkalosis/respiratory
   failure, liver failure
   1)Respiratory Failure- vanco/CTX/[**Last Name (un) 614**] for LLL PNA.  Continue current
   ventilator management.
   2)Sepsis - Back on pressors after posphenytoin dose.  Abx as above.
   WBC trending up. Continue to culture
   3)Altered Mental Status with Intermittent Convulsions
 Ativan prn.
   Keppra.  Fosphenytoin.  Treating with amp/vanc/CTX/[**Last Name (un) 614**] - day 6 as
   empiric rx of meningitis.  Holding on anti-fungals for the moment.
   4)Cirrhosis-
   Lactulose, Thiamine, MVI.  Cont midodrine
   5)Acute Renal Failure-
   -Midodrine/Octreotide.  Making urine and acidemia stable, but quite
   uremic
   6)Hypernatremia: Will increase fH20 repletion
   Very poor overall prognosis.  Will meet with family to update
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2127-10-16 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -family mtg: did not happen, we will talk w/ Dr [**Last Name (STitle) 1174**] tomorrow
   -got Vitamin K
   -started cipro to double-cover pseudomonas
   -gave free water for hypernatremia, early PM Na improved to 152, PM
   lytes were:
   -not tolerating TF w/ residuals > 150; was started on SS insulin given
   high sugars (got D5W)
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2127-10-15**] 08:00 AM
   Ceftriaxone - [**2127-10-15**] 12:45 PM
   Meropenem - [**2127-10-16**] 04:30 AM
   Ampicillin - [**2127-10-16**] 06:28 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2127-10-16**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-16**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.5
   HR: 71 (70 - 87) bpm
   BP: 96/62(70) {91/53(62) - 109/70(87)} mmHg
   RR: 20 (17 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  3,012 mL
                                                                    501 mL
   PO:
             TF:
                                                                    317 mL
   IVF:
                                                                  2,196 mL
                                                                    501 mL
   Blood products:
   Total out:
                                                                    721 mL
                                                                    190 mL
   Urine:
                                                                    256 mL
                                                                     90 mL
   NG:
                                                                    465 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,291 mL
                                                                    311 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: ///14/
   Ve: 11.6 L/min
   Physical Examination
   Cardiovascular: Gen: NAD, cachectic juandiced male
   CV: RRR, Nl S1 and S2
   Lungs: rhonchorous
   Abd: distended, NT -BS
   Ext: 1+ edema bilaterally
   Neuro: unresponsive
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   80 K/uL
   9.2 g/dL
   123 mg/dL
   7.2 mg/dL
   14 mEq/L
   3.3 mEq/L
   169 mg/dL
   116 mEq/L
   150 mEq/L
   27.6 %
   13.9 K/uL
        [image002.jpg]
                            [**2127-10-12**]  05:53 PM
                            [**2127-10-12**]  11:34 PM
                            [**2127-10-13**]  02:41 AM
                            [**2127-10-13**]  06:00 PM
                            [**2127-10-14**]  03:50 AM
                            [**2127-10-14**]  10:00 AM
                            [**2127-10-15**]  03:29 AM
                            [**2127-10-15**]  02:26 PM
                            [**2127-10-15**]  10:23 PM
                            [**2127-10-16**]  03:23 AM
   WBC
   6.9
   8.7
   13.9
   13.9
   Hct
   23.8
   24.3
   25.6
   27.3
   27.1
   27.6
   Plt
   37
   46
   41
   44
   65
   80
   Cr
   6.9
   7.1
   6.9
   7.0
   7.1
   6.9
   7.2
   TCO2
   16
   Glucose
   91
   89
   116
   167
   179
   171
   204
   123
   Other labs: PT / PTT / INR:35.1/59.5/3.6, Ca++:8.7 mg/dL, Mg++:2.8
   mg/dL, PO4:7.5 mg/dL
   Fluid analysis / Other labs:
   All EEGs pending
   Imaging: CXR  R pleural effusion.  Moderate left side PNA
   Microbiology: Sputum [**10-10**] -
   KLEBSIELLA PNEUMONIAE.
   STAPH AUREUS COAG +
   Blood cultures NGTD
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED HEALTH MAINTENANCE
 MALNUTRITION
 LIVER FUNCTION ABNORMALITIES
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock, reduced mental status, new whole brain edema, hepatorenal
   syndrome, with overall poor prognosis..
   # Altered Mental Status/Cerebral edema: patient initially presented
   with acute change in mental status and asterixis suggesting hepatic
   encephalopathy triggered by underlying infection, now septic shock.
   Now presents with whole brain edema.    prognosis for meaningful
   recovery low
   - Keppra 500IV [**Hospital1 7**],   fosphenytoin 100mg Q12h.
   - Continuing empiric treatment for meningitis
   - continue decreased dose of lactulose 30 mL TID for hepatic
   encephalopathy
   - Family currently wants to pursue aggressive care.
   - Family meeting today with Dr. [**Last Name (STitle) 1174**]
   - Daily updates to family
   - Daily neuro exams
   # Septic Shock: Pt has WBC count trending up, continued hypotension
   requiring levophed in setting of severely decompensated liver
   disease.   PNA is evident given CT and Xray findings today.  ? UTI?
   All blood cultures negative/NGTD.
   -  For pneumonia:  known Klebsiella PNA + MRSA PNA however should be
   considered a ventilator acquired PNA so should be double covering for
   pseudomonas, especially in face of worsening WBC, increased pressor
   support, and worsening CXR.  Currently on vanc (day 6) and [**Last Name (un) 614**] (day 3)
   specifically to cover MRSA and Klebs,
   - D/c Cipro given it reduces seizure threshold
   - For meningitis coverage, continue vanc, amp and ceftriaxone (day 6).
   deferring LP as likely to be low yield since been on abx already 6 days
   - Urine repeat cx growing yeast, consider addition of  fluconazole if
   symptoms worsen
   - avoid fluid boluses in favor of pressor support for MAP > 60
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Seizures have improved since started on Keppra.
   - f/u EEG - still pending
   -Neuro recs: regarding dosing
   - Ativan PRN convulsions (use in caution)
   # ETOH cirrhosis/ESLD: patient with MELD score of 30, currently not a
   transplant candidate.
   - tx for hepatic encephalopathy with laculose po tid titrate to [**3-5**]  BM
   daily, + enemas if not meeting goal  (400cc output yesterday)
   - Family meeting tomorrow at 7:15.  Inform Neuro and Palliative care
   today.
   #. Respiratory: Patient continues to substantially overbreathe
   ventilator with respiratory alkalosis on top of a profound metabolic
   acidosis - bicarb 12.  Currently is on Assist support with PEEP of 10,
   FiO2 of 40%.  Most recent 194* 23* 7.44 16*.
   -Continue on assist: most recent gas shows improvement in alkalosis,
   given AG metabolic acidosis (likely from renal failure)
   - Check daily or qod ABGs regardless of vent settings.
   - check lactate
   # Anemia - Hct stable.  No obvious bleeding.   Hct 27.6
   - PM Hct
   - Goal Hct > 21
   - Active T&S
   # Acute on chronic renal failure:  prior Cr baseline of 2.0 now
   elevated to 7 in short period with minimal UOP despite substantial
   fluid resuscitation and pressor support concerning for hepatorenal
   syndrome, supported by urine lytes with UNa < 10.  UOP of 256cc over
   last 24hr.
   -  On octreotide and midodrine but creatinine continues to worsen.
   -  Albumin was given at doses for hepatorenal [**10-12**].  Repeat albumin
   infusion, especially in setting of hypotension.
   -  Trend creatinines
   -  Dialysis not indicated renal function believed to be [**2-3**] to renal
   disease
   # Hypernatremia:
   - Free water bolus 150cc q4hr, titrate up to 200 cc q4 hrs
   - Decreased lactulose but would not decrease further given continued
   encephalopathy
   #Hematuria
 started [**10-12**], now clearing.  Likely trauma alsod consider
   stones, carcinoma, spontaneous bleed.  Continue to monitor.  Hold off
   on additional testing in acute setting.
   - Hct stable
   - continue to monitor urine
   #Thrombocytopenia- Likely [**2-3**] to worsening liver disease.  DIC was
   considered, but fibrinogen level normal.  Coags rela were concerned
   with DIC picture: platelets satble at 44; could be secondary to
   worsening liver disease although DIC still possible.  Fibrinogen levels
   are normal and coags are relatively stable at 3.8.
   -Plaletets stable; follow daily
   #. Nutrition: patient very cachetic with history of poor nutritional
   compliance
   - Not tolerating TF
   - Start TPN
   # FEN: IVF, [**Hospital1 7**] electrolytes with repletion, TPN
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: IJ, Aline
   # Code: FULL
   # Communication: wife, mother and family
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-16 11:56:00 Physician Attending Progress Note
Chief Complaint: Liver failure, renal failure, respirator failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Started on cipro overnight
   24 Hour Events:
   Urine output starting to drop off
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2127-10-15**] 08:00 AM
   Ceftriaxone - [**2127-10-15**] 12:45 PM
   Meropenem - [**2127-10-16**] 04:30 AM
   Ampicillin - [**2127-10-16**] 06:28 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2127-10-16**] 06:01 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-10-16**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.3
C (95.6
   HR: 63 (63 - 86) bpm
   BP: 89/50(59) {89/50(59) - 109/70(87)} mmHg
   RR: 20 (17 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  3,012 mL
                                                                    649 mL
   PO:
             TF:
                                                                    317 mL
   IVF:
                                                                  2,196 mL
                                                                    589 mL
   Blood products:
   Total out:
                                                                    721 mL
                                                                    255 mL
   Urine:
                                                                    256 mL
                                                                    105 mL
   NG:
                                                                    465 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,291 mL
                                                                    394 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: ///14/
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   80 K/uL
   123 mg/dL
   7.2 mg/dL
   14 mEq/L
   3.3 mEq/L
   169 mg/dL
   116 mEq/L
   150 mEq/L
   27.6 %
   13.9 K/uL
        [image002.jpg]
                            [**2127-10-12**]  05:53 PM
                            [**2127-10-12**]  11:34 PM
                            [**2127-10-13**]  02:41 AM
                            [**2127-10-13**]  06:00 PM
                            [**2127-10-14**]  03:50 AM
                            [**2127-10-14**]  10:00 AM
                            [**2127-10-15**]  03:29 AM
                            [**2127-10-15**]  02:26 PM
                            [**2127-10-15**]  10:23 PM
                            [**2127-10-16**]  03:23 AM
   WBC
   6.9
   8.7
   13.9
   13.9
   Hct
   23.8
   24.3
   25.6
   27.3
   27.1
   27.6
   Plt
   37
   46
   41
   44
   65
   80
   Cr
   6.9
   7.1
   6.9
   7.0
   7.1
   6.9
   7.2
   TCO2
   16
   Glucose
   91
   89
   116
   167
   179
   171
   204
   123
   Other labs: PT / PTT / INR:35.1/59.5/3.6, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:40/79, Alk Phos / T Bili:34/3.9,
   Fibrinogen:169 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:8.7 mg/dL, Mg++:2.8 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED HEALTH MAINTENANCE
 MALNUTRITION
 LIVER FUNCTION ABNORMALITIES
   43 yo male with history of cirrhosis, sepsis , worsening renal
   failure/HRS, respiratory alkalosis/respiratory failure, liver failure
   1)Respiratory Failure- vanco/CTX/[**Last Name (un) 614**] for LLL PNA.  Cont current vent
   managment
   2)Sepsis - On low dose pressors, but requirment not increasing.  WBC
   stable since yesterday
   3)Altered Mental Status with Intermittent Convulsions
 Ativan prn.
   Keppra.  Fosphenytoin.  Treating with amp/vanc/CTX/[**Last Name (un) 614**] - day 7 as
   empiric rx of meningitis.
   4)Cirrhosis-
   Lactulose, Thiamine, MVI.  midodrine
   5)Acute Renal Failure-
   -Midodrine/Octreotide.  Slightly more acidemic, urine output dropping
   off.
   6)Hypernatremia: Continue fH20 repletion
   Very poor overall prognosis.  Will meet with family to update
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2127-10-17 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Meeting tomorrow at 7:15.  Neuro will be there.  Palliative care
   informed.
   - TPN not ordered in time, will start tomorrow.
   - VBG 7.38 22 54 14
   - PM Na 152, given 300cc D5W.  Rpt Na improved
   - Neuro: cont antiepileptics unchanged, f/u free dilantin
   - Hepatology: family meeting, albumin, rpt Head CT
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2127-10-15**] 08:00 AM
   Ceftriaxone - [**2127-10-16**] 12:03 PM
   Meropenem - [**2127-10-17**] 04:10 AM
   Ampicillin - [**2127-10-17**] 05:35 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2127-10-16**] 08:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-17**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.7
C (96.3
   HR: 66 (63 - 80) bpm
   BP: 101/65(72) {85/50(59) - 112/65(73)} mmHg
   RR: 20 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  1,937 mL
                                                                    585 mL
   PO:
             TF:
   IVF:
                                                                  1,757 mL
                                                                    525 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                     35 mL
   Urine:
                                                                    150 mL
                                                                     35 mL
   NG:
                                                                    150 mL
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                  1,087 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 26 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 100%
   ABG: ///13/
   Ve: 9.8 L/min
   Physical Examination
   Cardiovascular: Gen: NAD, occassional eye blinking
   CV: RRR no m/r/g
   Lungs: rhonchorous
   Abd: soft, distended No BS
   Ext: 1+ edema bilaterally
   Skin: jaundiced
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   95 K/uL
   9.5 g/dL
   146 mg/dL
   7.3 mg/dL
   13 mEq/L
   3.5 mEq/L
   173 mg/dL
   115 mEq/L
   151 mEq/L
   28.8 %
   15.6 K/uL
        [image002.jpg]
                            [**2127-10-13**]  02:41 AM
                            [**2127-10-13**]  06:00 PM
                            [**2127-10-14**]  03:50 AM
                            [**2127-10-14**]  10:00 AM
                            [**2127-10-15**]  03:29 AM
                            [**2127-10-15**]  02:26 PM
                            [**2127-10-15**]  10:23 PM
                            [**2127-10-16**]  03:23 AM
                            [**2127-10-16**]  02:43 PM
                            [**2127-10-17**]  03:10 AM
   WBC
   6.9
   8.7
   13.9
   13.9
   15.6
   Hct
   24.3
   25.6
   27.3
   27.1
   27.6
   28.8
   Plt
   46
   41
   44
   65
   80
   95
   Cr
   6.9
   7.1
   6.9
   7.0
   7.1
   6.9
   7.2
   7.3
   7.3
   Glucose
   89
   116
   167
   179
   171
   [**Telephone/Fax (2) 10749**]46
   Other labs: PT / PTT / INR:35.1/60.3/3.6, Fibrinogen:169 mg/dL,
   Ca++:9.2 mg/dL, Mg++:2.8 mg/dL, PO4:8.3 mg/dL
   Fluid analysis / Other labs: Phenytoin 18.6
   Imaging: CXR: low lung volumes, RLL opacity
   Microbiology: [**10-10**] Sputum cx - sparse growth of Staph Aureus and
   Klebsiella.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED HEALTH MAINTENANCE
 MALNUTRITION
 LIVER FUNCTION ABNORMALITIES
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock, reduced mental status, new whole brain edema, hepatorenal
   syndrome, with overall poor prognosis..
   # Altered Mental Status/Cerebral edema: patient initially presented
   with acute change in mental status and asterixis suggesting hepatic
   encephalopathy triggered by underlying infection, now septic shock.
   Now presents with whole brain edema.    prognosis for meaningful
   recovery low
   - Keppra 500IV [**Hospital1 7**],   fosphenytoin 100mg Q12h.
   - Continuing empiric treatment for meningitis
   - continue  lactulose 30 mL TID for hepatic encephalopathy
   - Family meeting today with Dr. [**Last Name (STitle) 1174**]
   - Daily neuro exams
   # Septic Shock: Pt has WBC count trending up, continued hypotension
   requiring levophed in setting of severely decompensated liver
   disease.   PNA is evident given CT and Xray findings today.  ? UTI?
   All blood cultures negative/NGTD.
   -  For pneumonia:  known Klebsiella PNA + MRSA PNA  Currently on vanc
   (day 7).  Rpt Sputum culture
   - For meningitis coverage, continue vanc, amp and ceftriaxone (day 7).
   - Urine repeat cx growing yeast, consider addition of  fluconazole if
   symptoms worsen
   - avoid fluid boluses in favor of pressor support for MAP > 60
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Seizures have improved since started on Keppra.
   - f/u EEG - still pending
   -Neuro recs: regarding dosing
   - Ativan PRN convulsions (use in caution)
   # ETOH cirrhosis/ESLD: patient with MELD score of 30, currently not a
   transplant candidate.
   - tx for hepatic encephalopathy with laculose po tid titrate to [**3-5**]  BM
   daily, + enemas if not meeting goal  (400cc output yesterday)
   #. Respiratory: Patient continues to substantially overbreathe
   ventilator with respiratory alkalosis on top of a profound metabolic
   acidosis - bicarb 12.  Currently is on Assist support with PEEP of 10,
   FiO2 of 40%.  Most recent VBG 7.38 22 54 14
   -Continue on assist: most recent gas shows improvement in alkalosis,
   given AG metabolic acidosis (likely from renal failure)
   - Check daily or qod ABGs regardless of vent settings.
   - Lactate2.1, trending up.  Follow daily Lactate
   # Anemia - Hct stable.  No obvious bleeding.   Hct 27.6
   - PM Hct
   - Goal Hct > 21
   - Active T&S
   # Acute on chronic renal failure:  prior Cr baseline of 2.0 now
   elevated to 7 in short period with minimal UOP despite substantial
   fluid resuscitation and pressor support concerning for hepatorenal
   syndrome, supported by urine lytes with UNa < 10.  Minimal UOP over 24
   hrs. 150cc
   -  On octreotide and midodrine but creatinine continues to worsen.
   -  Albumin was given at doses for hepatorenal [**10-12**].  Repeat albumin
   infusion, especially in setting of hypotension.
   -  Trend creatinines
   -  Dialysis not indicated renal function believed to be [**2-3**] to hepato
   renal disease
   # Hypernatremia: dehydration, diarrhea, TPN
   - D5W 500cc daily if unable to tolerate NG fluid bolus
   #Hematuria
 started [**10-12**], now clearing.  Likely trauma alsod consider
   stones, carcinoma, spontaneous bleed.  Continue to monitor.  Hold off
   on additional testing in acute setting.
   - Hct stable
   - continue to monitor urine
   #Thrombocytopenia- Likely [**2-3**] to worsening liver disease.  DIC was
   considered, but fibrinogen level normal.  Coags rela were concerned
   with DIC picture: platelets satble at 44; could be secondary to
   worsening liver disease although DIC still possible.  Fibrinogen levels
   are normal and coags are relatively stable at 3.6
   -Plaletets stable; follow daily
   #. Nutrition: patient very cachetic with history of poor nutritional
   compliance
   - Not tolerating TF
   - Start TPN
   # FEN: IVF, [**Hospital1 7**] electrolytes with repletion, TPN
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: IJ
   # Code: FULL
   # Communication: wife, mother and family
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-17 10:34:00 Physician Attending Progress Note
Chief Complaint: Liver Failure, Renal Failure, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Urine output has dropped off significantly overnight
   24 Hour Events:
   Family meeting this AM  with myself and Dr. [**Last Name (STitle) 1174**] with wife, brother,
   and a family freiend.  Dr. [**Last Name (STitle) 1174**] led meeting and explained that he has
   had no improvement since last week.  His neurologic issues have also
   been an additional problem that has developed since then.  We
   reiterated to them that his chance of meaningful recovery is
   negliible.  They asked appropriate questions and would like to discuss
   with Mr. [**Known lastname 10751**] mother.  Their hopes are that Mr. [**Known lastname 9090**] has some
   inmprovement in neurological function to express his own wishes but the
   chances of this are also exceedingly slim.  For now, he remains full
   code but are they considering the information that we gave them CPR
   would be quite traumatic and unlikely to produce a meaningful result.
   Time spent: 25 minutes
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2127-10-16**] 12:03 PM
   Meropenem - [**2127-10-17**] 04:10 AM
   Ampicillin - [**2127-10-17**] 05:35 AM
   Vancomycin - [**2127-10-17**] 09:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Fosphenytoin - [**2127-10-16**] 08:03 PM
   Pantoprazole (Protonix) - [**2127-10-17**] 09:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-10-17**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.4
C (95.7
   HR: 66 (62 - 80) bpm
   BP: 105/65(73) {85/50(59) - 112/65(73)} mmHg
   RR: 20 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  1,937 mL
                                                                    907 mL
   PO:
             TF:
   IVF:
                                                                  1,757 mL
                                                                    777 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                     52 mL
   Urine:
                                                                    150 mL
                                                                     52 mL
   NG:
                                                                    150 mL
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                  1,087 mL
                                                                    855 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 100%
   ABG: ///13/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   95 K/uL
   146 mg/dL
   7.3 mg/dL
   13 mEq/L
   3.5 mEq/L
   173 mg/dL
   115 mEq/L
   151 mEq/L
   28.8 %
   15.6 K/uL
        [image002.jpg]
                            [**2127-10-13**]  02:41 AM
                            [**2127-10-13**]  06:00 PM
                            [**2127-10-14**]  03:50 AM
                            [**2127-10-14**]  10:00 AM
                            [**2127-10-15**]  03:29 AM
                            [**2127-10-15**]  02:26 PM
                            [**2127-10-15**]  10:23 PM
                            [**2127-10-16**]  03:23 AM
                            [**2127-10-16**]  02:43 PM
                            [**2127-10-17**]  03:10 AM
   WBC
   6.9
   8.7
   13.9
   13.9
   15.6
   Hct
   24.3
   25.6
   27.3
   27.1
   27.6
   28.8
   Plt
   46
   41
   44
   65
   80
   95
   Cr
   6.9
   7.1
   6.9
   7.0
   7.1
   6.9
   7.2
   7.3
   7.3
   Glucose
   89
   116
   167
   179
   171
   [**Telephone/Fax (2) 10749**]46
   Other labs: PT / PTT / INR:35.1/60.3/3.6, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:40/79, Alk Phos / T Bili:34/3.9,
   Fibrinogen:169 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:9.2 mg/dL, Mg++:2.8 mg/dL, PO4:8.3 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPERNATREMIA (HIGH SODIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED HEALTH MAINTENANCE
 MALNUTRITION
 LIVER FUNCTION ABNORMALITIES
   43 yo male with history of cirrhosis, sepsis , worsening renal
   failure/HRS, respiratory alkalosis/respiratory failure, liver failure
   1)Respiratory Failure- vanco/CTX/[**Last Name (un) 614**].  Cont current vent managment
   2)Sepsis - Ongoing pressor requirment - multifatioral due to infection,
   liver failure
   3)Altered Mental Status with Intermittent Convulsions
 Ativan prn.
   Keppra.  Fosphenytoin.  Treating empirically for meningitis, including
   viral causes.  Recheck head CT
 neuron following, appreciate their
   presence at the family meeting.
   4)Cirrhosis-
   Lactulose, Thiamine, MVI.  midodrine
   5)Acute Renal Failure-
   -Midodrine/Octreotide.  It is quite likely that acidemia and
   electrolyte abnormalities will worsen with drop in urine output.
   6)Hypernatremia: Na continues to a problem - will increase f[**Name (NI) 10752**]
   repletion
   Very poor overall prognosis.  Will meet with family to update
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2127-10-18 08:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family meeting with Dr [**Last Name (STitle) 1174**], neuro, SW, remains full code, will
   continue to communicate and update family
   - CT head (per rads resident): b/l hypodensidties in temporal lobes
   concerning of herpes encephalitis, edema slightly worse
   - emperic acyclovir
   - levo restarted for MAPs in high 50s
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2127-10-17**] 09:00 AM
   Ceftriaxone - [**2127-10-17**] 12:00 PM
   Meropenem - [**2127-10-17**] 05:00 PM
   Ampicillin - [**2127-10-18**] 06:20 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-17**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-18**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 86 (64 - 94) bpm
   BP: 104/61(71) {84/46(57) - 111/69(78)} mmHg
   RR: 20 (20 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
           Total In:
                                                                  3,247 mL
                                                                  1,663 mL
   PO:
           TF:
   IVF:
                                                                  2,376 mL
                                                                  1,049 mL
   Blood products:
                                                                    200 mL
                                                                    200 mL
   Total out:
                                                                    121 mL
                                                                     72 mL
   Urine:
                                                                    121 mL
                                                                     72 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,126 mL
                                                                  1,591 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 26 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 98%
   ABG: ///12/
   Ve: 9.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   91 K/uL
   8.2 g/dL
   145 mg/dL
   7.6 mg/dL
   12 mEq/L
   3.6 mEq/L
   174 mg/dL
   112 mEq/L
   149 mEq/L
   24.4 %
   15.6 K/uL
        [image002.jpg]
                            [**2127-10-14**]  03:50 AM
                            [**2127-10-14**]  10:00 AM
                            [**2127-10-15**]  03:29 AM
                            [**2127-10-15**]  02:26 PM
                            [**2127-10-15**]  10:23 PM
                            [**2127-10-16**]  03:23 AM
                            [**2127-10-16**]  02:43 PM
                            [**2127-10-17**]  03:10 AM
                            [**2127-10-17**]  05:15 PM
                            [**2127-10-18**]  04:02 AM
   WBC
   8.7
   13.9
   13.9
   15.6
   15.6
   Hct
   27.3
   27.1
   27.6
   28.8
   26.9
   24.4
   Plt
   44
   65
   80
   95
   91
   Cr
   6.9
   7.0
   7.1
   6.9
   7.2
   7.3
   7.3
   7.6
   7.6
   Glucose
   167
   179
   171
   [**Telephone/Fax (3) **]
   146
   181
   145
   Other labs: PT / PTT / INR:34.6/64.4/3.5, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:40/79, Alk Phos / T Bili:34/3.9,
   Fibrinogen:169 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:8.8 mg/dL, Mg++:2.7 mg/dL, PO4:8.0 mg/dL
   Imaging: CXR
   Microbiology: Sputum Cx: 2+ GPC in pairs
   Assessment and Plan
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock, reduced mental status, new whole brain edema, hepatorenal
   syndrome, with overall poor prognosis.
   # Altered Mental Status/Cerebral edema: likely multifactorial including
   hepatic encephalopath, infection including concern for herpatic
   encepalopathy from CT head yesterday.  Overall poor prognosis awaiting
   final read from CT head yesterday.
   - Keppra 500IV [**Hospital1 7**],   fosphenytoin 100mg Q12h.
   - Continuing empiric treatment for meningitis
   - continue  lactulose 30 mL TID for hepatic encephalopathy
   - Daily neuro exams
   # Septic Shock: Pt has WBC count trending up, continued hypotension
   requiring levophed in setting of severely decompensated liver
   disease.   Sputum culture with GPC in pairs.  On Vanc, amp and
   ceftiraxone day 8, acyclovir day 2.
   -  Currently on vanc (day 8) for emperic coverage of VAP.
   - For meningitis coverage, continue vanc, amp and ceftriaxone (day 7).
   Acyclovir day 2
   - Urine repeat cx growing yeast, consider addition of  fluconazole if
   symptoms worsen
   - avoid fluid boluses in favor of pressor support for MAP > 60
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Seizures have improved since started on Keppra.
   - f/u EEG - still pending
   - Neuro recs
   - Ativan PRN convulsions (use in caution)
   # ETOH cirrhosis/ESLD: patient with MELD score of 30, currently not a
   transplant candidate.
   - tx for hepatic encephalopathy with laculose po tid titrate to [**3-5**]  BM
   daily, + enemas if not meeting goal  (400cc output yesterday)
   # Anemia - Hct trending down 24 today.  No obvious bleeding.
   - PM Hct
   - Goal Hct > 21
   - Active T&S
   # Acute on chronic renal failure:  Cr 7.6 with minimal UOP. Concerning
   for hepatorenal syndrome, supported by urine lytes with UNa < 10.  Not
   offered dialysis given prognosis.  UOP [**Age over 90 **] yesterday with albumin, on
   octreotide and midodrine but creatinine continues to worsen.
   -  continue albumin
   -  Trend creatinine
   # Hypernatremia: dehydration, diarrhea, TPN
   - D5W 500cc daily if unable to tolerate NG fluid bolus
   #Thrombocytopenia- Likely [**2-3**] to worsening liver disease.  DIC labs
   negative
   -Plaletets stable; follow daily
   #. Nutrition: patient very cachetic with history of poor nutritional
   compliance, not tolerating TF
   - TPN
   # FEN: IVF, [**Hospital1 7**] electrolytes with repletion, TPN
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: IJ
   # Code: FULL
   # Communication: wife, mother and family
   # Disposition: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2127-10-17**] 05:00 PM 41.[**Telephone/Fax (5) 2151**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-19 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -HCT slowly trending down from 24 -> 22
   -much of [**Known lastname 9090**]'s family is going to arrive on monday
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2127-10-17**] 09:00 AM
   Ceftriaxone - [**2127-10-18**] 11:55 AM
   Meropenem - [**2127-10-19**] 04:00 AM
   Ampicillin - [**2127-10-19**] 06:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-18**] 08:00 PM
   Fosphenytoin - [**2127-10-19**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-19**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96
   HR: 86 (70 - 104) bpm
   BP: 99/55(66) {91/46(56) - 101/64(80)} mmHg
   RR: 22 (16 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 58.6 kg
   Height: 62 Inch
           Total In:
                                                                  4,948 mL
                                                                  1,183 mL
   PO:
           TF:
   IVF:
                                                                  3,236 mL
                                                                    503 mL
   Blood products:
                                                                    400 mL
                                                                    200 mL
   Total out:
                                                                  1,414 mL
                                                                     80 mL
   Urine:
                                                                    196 mL
                                                                     60 mL
   NG:
                                                                     18 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  3,534 mL
                                                                  1,103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 96%
   ABG: ///12/
   Ve: 8.4 L/min
   Physical Examination
   Cardiovascular: Gen: NAD
   CV: RRR, Nl S1 and S2. No r/g/m
   Lungs: clear anteriorly
   Abd: distended, tense + fluid wave
   Ext: 1+ edema bilaterally
   Neuro: unresponsive
   Skin: jaundiced
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   8.1 g/dL
   128 mg/dL
   7.6 mg/dL
   12 mEq/L
   3.8 mEq/L
   174 mg/dL
   110 mEq/L
   147 mEq/L
   24.9 %
   10.9 K/uL
        [image002.jpg]
                            [**2127-10-15**]  03:29 AM
                            [**2127-10-15**]  02:26 PM
                            [**2127-10-15**]  10:23 PM
                            [**2127-10-16**]  03:23 AM
                            [**2127-10-16**]  02:43 PM
                            [**2127-10-17**]  03:10 AM
                            [**2127-10-17**]  05:15 PM
                            [**2127-10-18**]  04:02 AM
                            [**2127-10-18**]  06:07 PM
                            [**2127-10-19**]  03:47 AM
   WBC
   13.9
   13.9
   15.6
   15.6
   10.1
   10.9
   Hct
   27.1
   27.6
   28.8
   26.9
   24.4
   22.3
   24.9
   Plt
   65
   80
   95
   91
   60
   42
   Cr
   7.0
   7.1
   6.9
   7.2
   7.3
   7.3
   7.6
   7.6
   7.9
   7.6
   Glucose
   171
   204
   123
   123
   146
   181
   145
   126
   128
   Other labs: PT / PTT / INR:34.6/64.4/3.5, CK / CKMB /
   Troponin-T:750/4/0.05, Ca++:8.8 mg/dL, Mg++:2.6 mg/dL, PO4:8.0 mg/dL
   EEG: intermittent generalized periodic epileptiform activity with
   electrographic seizure.
   Imaging: CXR: reduced lung volumes, increased vascularity
   Microbiology: [**10-17**]:  STAPH AUREUS COAG +.    SPARSE GROWTH.
         YEAST.    SPARSE GROWTH.
   Fungal cultures pending
   Assessment and Plan
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 LIVER FUNCTION ABNORMALITIES
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock, reduced mental status, new whole brain edema, hepatorenal
   syndrome, with overall poor prognosis.
   # Altered Mental Status/Cerebral edema: likely multifactorial including
   hepatic encephalopathy, infection including concern for herpatic
   encepalopathy from CT head yesterday.  Overall poor prognosis awaiting
   final read from CT head yesterday.
   - Keppra 500IV [**Hospital1 7**],   fosphenytoin 100mg Q12h.
   - Continuing empiric treatment for meningitis
   - continue  lactulose 30 mL TID for hepatic encephalopathy
   - Daily neuro exams
    # Septic Shock: Pt has WBC count trending up, continued hypotension
   requiring levophed in setting of severely decompensated liver
   disease.   Sputum culture with GPC in pairs.  On Vanc, amp and
   ceftiraxone day 8, acyclovir day 2.
   - For meningitis coverage, continue vanc, amp and ceftriaxone (day 8).
   Acyclovir day 3.
   - Urine repeat cx growing yeast, consider addition of  fluconazole if
   symptoms worsen
   - avoid fluid boluses in favor of pressure support for MAP > 60
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Seizures have improved since started on Keppra.
   - f/u EEG - still pending
   - Neuro recs
   - Ativan PRN convulsions (use in caution)
   # ETOH cirrhosis/ESLD: patient with MELD score of 45, currently not a
   transplant candidate.
   - tx for hepatic encephalopathy with laculose po tid titrate to [**3-5**]  BM
   daily, + enemas if not meeting goal  (400cc output yesterday)
   # Anemia - Hct trending down 24 today.  No obvious bleeding.
   - PM Hct
   - Goal Hct > 21
   - Active T&S
   # Acute on chronic renal failure:  Cr 7.6 with minimal UOP. Concerning
   for hepatorenal syndrome, supported by urine lytes with UNa < 10.  Not
   offered dialysis given prognosis.  UOP [**Age over 90 **] yesterday with albumin, on
   octreotide and midodrine but creatinine continues to worsen.
   -  continue albumin
   -  Trend creatinine
   # Hypernatremia: likely due to dehydration, diarrhea, TPN. 1.8 L free
   water deficit.
   - D5W 1L
   #Thrombocytopenia- Likely [**2-3**] to worsening liver disease.  DIC labs
   negative
   -Plaletets stable; follow daily
   #. Nutrition: patient very cachetic with history of poor nutritional
   compliance, not tolerating TF
   - TPN
   # FEN: IVF, [**Hospital1 7**] electrolytes with repletion, TPN
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: IJ
   # Code: FULL
   # Communication: wife, mother and family
   # Disposition: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2127-10-18**] 05:05 PM 41.[**Telephone/Fax (5) 2151**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-20 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family to be here today
   - Attempted weaning off of pressors
   - low bicarb, f/u with ABG which appeared unchanged.  Pt has persistent
   metabolic acidosis and respiratory alkalosis
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2127-10-18**] 11:55 AM
   Meropenem - [**2127-10-19**] 04:00 AM
   Ampicillin - [**2127-10-19**] 06:00 AM
   Vancomycin - [**2127-10-19**] 08:46 AM
   Acyclovir - [**2127-10-19**] 10:34 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-19**] 08:46 AM
   Fosphenytoin - [**2127-10-20**] 05:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-20**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 90 (76 - 112) bpm
   BP: 91/45(56) {91/45(56) - 110/67(79)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  3,791 mL
                                                                    495 mL
   PO:
             TF:
   IVF:
                                                                  2,042 mL
                                                                    126 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,338 mL
                                                                    145 mL
   Urine:
                                                                    218 mL
                                                                    145 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  2,453 mL
                                                                    350 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 11
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: 7.35/21/125/11/-11
   Ve: 12.2 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   70 K/uL
   7.9 g/dL
   154 mg/dL
   7.9 mg/dL
   11 mEq/L
   4.1 mEq/L
   181 mg/dL
   107 mEq/L
   142 mEq/L
   24.2 %
   13.8 K/uL
        [image002.jpg]
                            [**2127-10-15**]  10:23 PM
                            [**2127-10-16**]  03:23 AM
                            [**2127-10-16**]  02:43 PM
                            [**2127-10-17**]  03:10 AM
                            [**2127-10-17**]  05:15 PM
                            [**2127-10-18**]  04:02 AM
                            [**2127-10-18**]  06:07 PM
                            [**2127-10-19**]  03:47 AM
                            [**2127-10-20**]  03:47 AM
                            [**2127-10-20**]  05:43 AM
   WBC
   13.9
   15.6
   15.6
   10.1
   10.9
   13.8
   Hct
   27.6
   28.8
   26.9
   24.4
   22.3
   24.9
   24.2
   Plt
   80
   95
   91
   60
   42
   70
   Cr
   6.9
   7.2
   7.3
   7.3
   7.6
   7.6
   7.9
   7.6
   7.9
   TCO2
   12
   Glucose
   123
   123
   146
   181
   145
   126
   128
   154
   Other labs: PT / PTT / INR:34.6/64.4/3.5, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:40/79, Alk Phos / T Bili:34/3.9,
   Differential-Neuts:86.4 %, Lymph:7.2 %, Mono:2.8 %, Eos:3.1 %,
   Fibrinogen:169 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:7.7 mg/dL
   Microbiology: Sputum Cx: Sparce  Staph Aureus of 2 varieties
   Urine Cx: yeast
   Assessment and Plan
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock, reduced mental status, new whole brain edema, hepatorenal
   syndrome, with overall poor prognosis.
   # Altered Mental Status/Cerebral edema: likely multifactorial including
   hepatic encephalopathy, infection including concern for herpatic
   encepalopathy from CT head.
   - Continuing empiric treatment for meningitis
   - continue  lactulose 30 mL TID for hepatic encephalopathy
   - Daily neuro exams
   - f/u neuro re recs for prognosis
   # Septic Shock: Pt has WBC count trending up, continued hypotension
   requiring levophed in setting of severely decompensated liver
   disease.   Sputum culture with GPC in pairs.  On Acyclovir day 4.
   Antibiotics for bacterial meningitis stopped,which is unlikely given no
   improvment on abx.
   - Urine repeat cx growing yeast, consider addition of  fluconazole if
   symptoms worsen
   - avoid fluid boluses in favor of pressure support for MAP > 60
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Seizures have improved since started on  Keppra 500IV [**Hospital1 7**],
   fosphenytoin 100mg Q12h
   - continue antiepileptics
   - Ativan PRN convulsions (use in caution)
   # Anemia - Hct stable 24 today.  No obvious bleeding.
   - [**Hospital1 7**]  Hct
   - Goal Hct > 21
   - Active T&S
   # Acute on chronic renal failure:  Cr 7.9 with minimal UOP. Likely
   hepatorenal syndrome, supported by urine lytes with UNa < 10.  Not
   offered dialysis given prognosis.  UOP yesterday with albumin, on
   octreotide and midodrine but creatinine continues to worsen.
   -  restart albumin?
   -  Trend creatinine
   # Hypernatremia: now improved with iL D5W yesterday.
   - continue to monitor
   #Thrombocytopenia- Likely [**2-3**] to worsening liver disease.  DIC labs
   negative
   -Plaletets stable; follow daily
    # ETOH cirrhosis/ESLD: patient with MELD score of 45, currently not a
   transplant candidate.
   - tx for hepatic encephalopathy with laculose po tid titrate to [**3-5**]  BM
   daily, + enemas if not meeting goal  (>1L output yesterday)
   # FEN: IVF, [**Hospital1 7**] electrolytes with repletion, TPN
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: IJ
   # Code: FULL
   # Communication: wife, mother and family.  Family to arrive today?
   - Family meeting
   # Disposition: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2127-10-19**] 04:45 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-20 09:38:00 Physician Attending Progress Note
Chief Complaint: Liver Failure, Respiratory Failure, Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continuing worsening of creatinine
   24 Hour Events:
   Off of pressors
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2127-10-18**] 11:55 AM
   Meropenem - [**2127-10-19**] 04:00 AM
   Ampicillin - [**2127-10-19**] 06:00 AM
   Vancomycin - [**2127-10-19**] 08:46 AM
   Acyclovir - [**2127-10-19**] 10:34 PM
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2127-10-20**] 05:57 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-10-20**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.6
C (96
   HR: 83 (76 - 112) bpm
   BP: 93/49(59) {90/45(56) - 110/67(79)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  3,791 mL
                                                                    770 mL
   PO:
             TF:
   IVF:
                                                                  2,042 mL
                                                                    143 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,338 mL
                                                                    152 mL
   Urine:
                                                                    218 mL
                                                                    152 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  2,453 mL
                                                                    618 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 11
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: 7.35/21/125/11/-11
   Ve: 8.9 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Non-tender, Distended, protuberant
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   70 K/uL
   154 mg/dL
   7.9 mg/dL
   11 mEq/L
   4.1 mEq/L
   181 mg/dL
   107 mEq/L
   142 mEq/L
   24.2 %
   13.8 K/uL
        [image002.jpg]
                            [**2127-10-15**]  10:23 PM
                            [**2127-10-16**]  03:23 AM
                            [**2127-10-16**]  02:43 PM
                            [**2127-10-17**]  03:10 AM
                            [**2127-10-17**]  05:15 PM
                            [**2127-10-18**]  04:02 AM
                            [**2127-10-18**]  06:07 PM
                            [**2127-10-19**]  03:47 AM
                            [**2127-10-20**]  03:47 AM
                            [**2127-10-20**]  05:43 AM
   WBC
   13.9
   15.6
   15.6
   10.1
   10.9
   13.8
   Hct
   27.6
   28.8
   26.9
   24.4
   22.3
   24.9
   24.2
   Plt
   80
   95
   91
   60
   42
   70
   Cr
   6.9
   7.2
   7.3
   7.3
   7.6
   7.6
   7.9
   7.6
   7.9
   TCO2
   12
   Glucose
   123
   123
   146
   181
   145
   126
   128
   154
   Other labs: PT / PTT / INR:34.6/64.4/3.5, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:40/79, Alk Phos / T Bili:34/3.9,
   Differential-Neuts:86.4 %, Lymph:7.2 %, Mono:2.8 %, Eos:3.1 %,
   Fibrinogen:169 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:7.7 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 LIVER FUNCTION ABNORMALITIES
   43 yo male with history of cirrhosis, sepsis , worsening renal
   failure/HRS, respiratory alkalosis/respiratory failure, liver failure
   1)Respiratory Failure- .  Cont current vent managment
   2)Sepsis - Off pressors at the moment
   3)Altered Mental Status with Intermittent Convulsions
 Ativan prn.
   Keppra.  Fosphenytoin.  On acyclovir.
   4)Cirrhosis-
   Lactulose, Thiamine, MVI.
   5)Acute Renal Failure-Continues to slowly worsen with slowly
   pregressive acidemia
   Need to continue to discuss goals of care with family given his
   constellation of organ failure and inability to recover because of
   liver failure.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   TPN without Lipids - [**2127-10-19**] 04:45 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2127-10-21 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family meeting tomorrow: 3pm
       -Dr. [**Last Name (STitle) 1174**] aware, but unsure if he can come, page tomorrow
       -Both SW ([**First Name8 (NamePattern2) 3274**] [**Last Name (NamePattern1) 1441**]) and palliative care ([**Doctor Last Name 376**]) aware
       -Neuro paged with FYI (f/u tomorrow)
       -Paged Farsi Interpreter Shahruad Marshamsy pg [**Numeric Identifier 5064**], f/u
   - Ethics case discussion today regarding approach to meeting, consensus
   is to emphasize that he is dying, and this is part of the dying
   process.  Throught is if we use any wording that is not definite, they
   will grasp onto that one in a million chance.
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2127-10-18**] 11:55 AM
   Meropenem - [**2127-10-19**] 04:00 AM
   Ampicillin - [**2127-10-19**] 06:00 AM
   Vancomycin - [**2127-10-19**] 08:46 AM
   Acyclovir - [**2127-10-20**] 10:27 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-20**] 08:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-21**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.5
   HR: 82 (75 - 108) bpm
   BP: 93/45(56) {88/45(55) - 107/61(72)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,081 mL
                                                                    664 mL
   PO:
             TF:
   IVF:
                                                                    399 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,177 mL
                                                                     30 mL
   Urine:
                                                                    177 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    904 mL
                                                                    634 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 100%
   ABG: ///12/
   Ve: 8.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   80 K/uL
   7.8 g/dL
   181 mg/dL
   8.2 mg/dL
   12 mEq/L
   4.9 mEq/L
   202 mg/dL
   105 mEq/L
   141 mEq/L
   24.0 %
   13.6 K/uL
        [image002.jpg]
                            [**2127-10-16**]  03:23 AM
                            [**2127-10-16**]  02:43 PM
                            [**2127-10-17**]  03:10 AM
                            [**2127-10-17**]  05:15 PM
                            [**2127-10-18**]  04:02 AM
                            [**2127-10-18**]  06:07 PM
                            [**2127-10-19**]  03:47 AM
                            [**2127-10-20**]  03:47 AM
                            [**2127-10-20**]  05:43 AM
                            [**2127-10-21**]  04:06 AM
   WBC
   13.9
   15.6
   15.6
   10.1
   10.9
   13.8
   13.6
   Hct
   27.6
   28.8
   26.9
   24.4
   22.3
   24.9
   24.2
   24.0
   Plt
   80
   95
   91
   60
   42
   70
   80
   Cr
   7.2
   7.3
   7.3
   7.6
   7.6
   7.9
   7.6
   7.9
   8.2
   TCO2
   12
   Glucose
   123
   123
   146
   181
   145
   126
   128
   154
   181
   Other labs: PT / PTT / INR:32.3/84.6/3.3, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:40/79, Alk Phos / T Bili:34/3.9,
   Differential-Neuts:86.4 %, Lymph:7.2 %, Mono:2.8 %, Eos:3.1 %,
   Fibrinogen:169 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock, reduced mental status, new whole brain edema, hepatorenal
   syndrome, with overall poor prognosis.
   # Altered Mental Status/Cerebral edema: likely multifactorial including
   hepatic encephalopathy, infection including concern for herpatic
   encepalopathy from CT head.
   - Continuing acyclovir (on day 4 of 10 day course)
   - continue  lactulose 30 mL TID for hepatic encephalopathy
   - Daily neuro exams
   - f/u neuro re recs for prognosis
   # Sepsis: Pt has WBC count up over last couple days (13.8 -> 13.6)
   continued hypotension requiring levophed in setting of severely
   decompensated liver disease.   Sputum culture with GPC in pairs, but no
   fevers, no findings on CXR suggestive of underlying PNA.
   - avoid fluid boluses in favor of pressure support for MAP > 55
   - Continue acyclovir; prior PNA abx course for Klebs + MRSA complete
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Seizures have improved since started on  Keppra 500IV [**Hospital1 7**],
   fosphenytoin 100mg Q12h
   - continue antiepileptics
   - Ativan PRN convulsions (use in caution)
   -goal phenytoin level of 20; check pheny level tomorrow given
   fluctuations in renal fnx
   # Acute on chronic renal failure:  Cr 7.9 -> 8.2; with minimal UOP.
   Likely hepatorenal syndrome, supported by urine lytes with UNa < 10.
   Not offered dialysis given prognosis.  On octreotide and midodrine but
   creatinine continues to worsen.
   -  Trend creatinine
   # Anemia - Hct stable 24 today.  No obvious bleeding.
   - daily  Hct
   - Goal Hct > 21
   - Active T&S
    # ETOH cirrhosis/ESLD: patient with MELD score of 45, currently not a
   transplant candidate.
   - tx for hepatic encephalopathy with laculose po tid titrate to [**3-5**]  BM
   daily, + enemas if not meeting goal  (>1L output yesterday)
   # FEN: IVF, [**Hospital1 7**] electrolytes with repletion, TPN
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: IJ
   # Code: FULL
   # Communication: wife, mother and family.  Family meeting today at 3
   PM.
       -Dr. [**Last Name (STitle) 1174**] aware, but unsure if he can come, needs to be paged
   today
       -Both SW ([**First Name8 (NamePattern2) 3274**] [**Last Name (NamePattern1) 1441**]) and palliative care ([**Doctor Last Name 376**]) aware - touch
   base
       -Neuro paged with FYI (f/u tomorrow) - touch base today
       -Paged Farsi Interpreter Shahruad Marshamsy pg [**Numeric Identifier 5064**], f/u
       -Ethics case discussion today regarding approach to meeting,
   consensus is to emphasize that he is dying, and this is part of the
   dying process.  Throught is if we use any wording that is not
        definite, they will grasp onto that one in a million chance.
   # Disposition: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2127-10-20**] 04:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-21 10:44:00 Physician Attending Progress Note
Chief Complaint: Liver Failure, Renal Failure, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Family meeting coordinated for 3PM today
   24 Hour Events:
   No other events overnight
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2127-10-18**] 11:55 AM
   Meropenem - [**2127-10-19**] 04:00 AM
   Ampicillin - [**2127-10-19**] 06:00 AM
   Vancomycin - [**2127-10-19**] 08:46 AM
   Acyclovir - [**2127-10-20**] 10:27 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-21**] 08:32 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-10-21**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 75 (75 - 108) bpm
   BP: 96/50(61) {86/40(51) - 107/61(72)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,081 mL
                                                                  1,027 mL
   PO:
             TF:
   IVF:
                                                                    399 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  1,177 mL
                                                                     45 mL
   Urine:
                                                                    177 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    904 mL
                                                                    982 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: ///12/
   Ve: 10.5 L/min
   Physical Examination
   General Appearance: No acute distress, rhythmic blinking
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   80 K/uL
   181 mg/dL
   8.2 mg/dL
   12 mEq/L
   4.9 mEq/L
   202 mg/dL
   105 mEq/L
   141 mEq/L
   24.0 %
   13.6 K/uL
        [image002.jpg]
                            [**2127-10-16**]  03:23 AM
                            [**2127-10-16**]  02:43 PM
                            [**2127-10-17**]  03:10 AM
                            [**2127-10-17**]  05:15 PM
                            [**2127-10-18**]  04:02 AM
                            [**2127-10-18**]  06:07 PM
                            [**2127-10-19**]  03:47 AM
                            [**2127-10-20**]  03:47 AM
                            [**2127-10-20**]  05:43 AM
                            [**2127-10-21**]  04:06 AM
   WBC
   13.9
   15.6
   15.6
   10.1
   10.9
   13.8
   13.6
   Hct
   27.6
   28.8
   26.9
   24.4
   22.3
   24.9
   24.2
   24.0
   Plt
   80
   95
   91
   60
   42
   70
   80
   Cr
   7.2
   7.3
   7.3
   7.6
   7.6
   7.9
   7.6
   7.9
   8.2
   TCO2
   12
   Glucose
   123
   123
   146
   181
   145
   126
   128
   154
   181
   Other labs: PT / PTT / INR:32.3/84.6/3.3, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:40/79, Alk Phos / T Bili:34/3.9,
   Differential-Neuts:86.4 %, Lymph:7.2 %, Mono:2.8 %, Eos:3.1 %,
   Fibrinogen:169 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 LIVER FUNCTION ABNORMALITIES
   43 yo male with history of cirrhosis, sepsis , worsening renal
   failure/HRS, respiratory alkalosis/respiratory failure, liver failure
   1)Respiratory Failure - Cont current vent managment
   2)Sepsis - On and off pressors but currently off
   3)Altered Mental Status with Intermittent Convulsions
 Ativan prn.
   Keppra.  Fosphenytoin.  Acyclovir day [**5-11**] given temporal lobe
   hypodensities on latest CT scan.
   4)Cirrhosis-
   Lactulose, Thiamine, MVI.
   5)Acute Renal Failure - Ongoing worsening.  Acidemia stable.  Oliguric
   Family meeting scheduled today for 3PM
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   TPN without Lipids - [**2127-10-20**] 04:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill
   ------ Protected Section ------
   Family meeting held today with Mr [**Known lastname 9090**]
s wife, his mother, as well as
   a family friend.  Representatives from Critical Care, Hepatology,
   Neurology, Palliative Care, Nursing, and Social Work all present for
   the meeting.  The discussion centered initially on the continued
   worsening of Mr. [**Known lastname 9090**]
s multi-organ failure, including liver, kidney,
   lungs, and brain.  We spent some time discussing his neurologic injury
   and the extremely poor prognosis for neurologic recovery.  Mrs. [**Known lastname 9090**]
   would like to understand his neurological evaluation better and see
   documentation of findings.  Patient Relations has been contact[**Name (NI) **] to
   help Mr. [**Known lastname 9090**] [**Last Name (Titles) 10875**] this process.  We then discussed that in the
   event of an arrest CPR would not be appropriate given the overall
   clinical situation
 Mr. [**Known lastname 9090**]
s family were agreeable.  A DNR order
   was entered after the meeting.  Mr. [**Known lastname 9090**]
s wife and mother would also
   like to further involve Mr. [**Known lastname 9090**]
s brothers into discussion of goals
   of care
 we will try to arrange for Thursday.  In the meantime, we
   will continue with current measures with the understanding that
   escalation of care is likely not appropriate.  We will contact Mrs.
   [**Known lastname 9090**] if there any acute decline in his condition.
   Patient is critically ill.  Time spent: 45 minues.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2682**] [**Name8 (MD) 2683**], MD
   on:[**2127-10-21**] 17:36 ------

2127-10-22 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family meeting: now DNR
   - HyperK: EKG wihtout peaked T waves, Ca, kayexalate
   - Neuro Recs: hold Dilantin for 2 doses, then resume at 100mg twice
   daily, because high free phenytoin levels, goal [**10-13**], no chance of
   neurologic recovery better than persistent vegetative state
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2127-10-19**] 08:46 AM
   Acyclovir - [**2127-10-21**] 10:37 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-21**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-22**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 79 (75 - 90) bpm
   BP: 97/41(55) {86/34(47) - 110/63(75)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,117 mL
                                                                    441 mL
   PO:
             TF:
   IVF:
                                                                    360 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                      0 mL
   Urine:
                                                                     85 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  1,232 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: ///8/
   Ve: 11.8 L/min
   Physical Examination
   Gen: NAD
   CV: RRR, Nl S1 and S2. No r/g/m
   Lungs: clear anteriorly
   Abd: distended, tense + fluid wave
   Ext: 1+ edema bilaterally
   Neuro: unresponsive
   Skin: jaundiced
   Labs / Radiology
   108 K/uL
   7.4 g/dL
   177 mg/dL
   8.7 mg/dL
   8 mEq/L
   5.9 mEq/L
   210 mg/dL
   104 mEq/L
   138 mEq/L
   23.6 %
   12.3 K/uL
        [image002.jpg]
                            [**2127-10-16**]  02:43 PM
                            [**2127-10-17**]  03:10 AM
                            [**2127-10-17**]  05:15 PM
                            [**2127-10-18**]  04:02 AM
                            [**2127-10-18**]  06:07 PM
                            [**2127-10-19**]  03:47 AM
                            [**2127-10-20**]  03:47 AM
                            [**2127-10-20**]  05:43 AM
                            [**2127-10-21**]  04:06 AM
                            [**2127-10-22**]  04:11 AM
   WBC
   15.6
   15.6
   10.1
   10.9
   13.8
   13.6
   12.3
   Hct
   28.8
   26.9
   24.4
   22.3
   24.9
   24.2
   24.0
   23.6
   Plt
   95
   91
   60
   42
   70
   80
   108
   Cr
   7.3
   7.3
   7.6
   7.6
   7.9
   7.6
   7.9
   8.2
   8.7
   TCO2
   12
   Glucose
   123
   146
   181
   145
   126
   128
   154
   181
   177
   Other labs: PT / PTT / INR:32.9/82.6/3.3, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:40/79, Alk Phos / T Bili:34/3.9,
   Differential-Neuts:86.4 %, Lymph:7.2 %, Mono:2.8 %, Eos:3.1 %,
   Fibrinogen:169 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:8.9 mg/dL, Mg++:2.5 mg/dL, PO4:9.4 mg/dL
   Microbiology: Sputum Cx: STAPH AUREUS COAG +.    SPARSE GROWTH.  OF TWO
   COLONIAL MORPHOLOGIES.
   EKG: NSR at 80, normal axis and intervals, no peaked TW
   Assessment and Plan
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock, reduced mental status, new whole brain edema, hepatorenal
   syndrome, with overall poor prognosis.
   # Altered Mental Status/Cerebral edema: likely multifactorial including
   hepatic encephalopathy high free phenytoin and holding Dilantin for 2
   doses, no chance of neurologic recovery better than persistent
   vegetative state also infection including concern for herpatic
   encepalopathy from CT head.
   - Continuing acyclovir (on day 5 of 10 day course)
   - continue  lactulose 30 mL TID for hepatic encephalopathy
   - Daily neuro exams
   #. Hyperkalemia: K 5.9, EKG without evidence of changes, given Ca and
   kayexalate
   - bicarb gtt
   - recheck in 4hrs
   # Sepsis: Pt has WBC count up but trending down, hypotension improved
   not requiring pressors.   Sputum culture with GPC in pairs, but no
   fevers, no findings on CXR suggestive of underlying PNA.
   - avoid fluid boluses in favor of pressure support for MAP > 55
   prior PNA abx course for Klebs + MRSA complete
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Seizures have improved since started on  Keppra 500IV [**Hospital1 7**],
   fosphenytoin 100mg Q12h.
   - Hold dilantin as above x2 doses
   - continue antiepileptics
   - Ativan PRN convulsions (use in caution)
   - phenytoin level goal [**10-13**]
   # Acute on chronic renal failure:  Cr 7.9 -> 8.2; with minimal UOP.
   Likely hepatorenal syndrome, supported by urine lytes with UNa < 10.
   Not offered dialysis given prognosis.  On octreotide and midodrine but
   creatinine continues to worsen.
   -  Trend creatinine
   # Anemia - Hct stable 24 today.  No obvious bleeding.
   - daily  Hct
   - Goal Hct > 21
   - Active T&S
    # ETOH cirrhosis/ESLD: patient with MELD score of 45, currently not a
   transplant candidate.
   - tx for hepatic encephalopathy with laculose po tid titrate to [**3-5**]  BM
   daily, + enemas if not meeting goal  (>1L output yesterday)
   # FEN: IVF, [**Hospital1 7**] electrolytes with repletion, TPN
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: IJ
   # Code: DNR/DNI
   # Communication: wife, mother and family.
   - Family meeting yesterday, now DNR/DNI
   - Plan for family meeting tomorrow
   # Disposition: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2127-10-21**] 03:47 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-22 10:48:00 Physician Attending Progress Note
Chief Complaint: Liver failure, Renal Failure, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Acidemia and hyperkalemia worsening
   24 Hour Events:
   Family meeting yesterday as detailed in addendum from yesterday's note
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Acyclovir - [**2127-10-21**] 10:37 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-22**] 08:07 AM
   Other medications:
   pre ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-10-22**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.4
C (95.8
   HR: 91 (75 - 91) bpm
   BP: 112/54(69) {88/34(47) - 112/63(75)} mmHg
   RR: 19 (16 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,117 mL
                                                                    922 mL
   PO:
             TF:
   IVF:
                                                                    360 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                     26 mL
   Urine:
                                                                     85 mL
                                                                     26 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  1,232 mL
                                                                    896 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: ///8/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended, protuberant
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   108 K/uL
   177 mg/dL
   8.7 mg/dL
   8 mEq/L
   5.9 mEq/L
   210 mg/dL
   104 mEq/L
   138 mEq/L
   23.6 %
   12.3 K/uL
        [image002.jpg]
                            [**2127-10-16**]  02:43 PM
                            [**2127-10-17**]  03:10 AM
                            [**2127-10-17**]  05:15 PM
                            [**2127-10-18**]  04:02 AM
                            [**2127-10-18**]  06:07 PM
                            [**2127-10-19**]  03:47 AM
                            [**2127-10-20**]  03:47 AM
                            [**2127-10-20**]  05:43 AM
                            [**2127-10-21**]  04:06 AM
                            [**2127-10-22**]  04:11 AM
   WBC
   15.6
   15.6
   10.1
   10.9
   13.8
   13.6
   12.3
   Hct
   28.8
   26.9
   24.4
   22.3
   24.9
   24.2
   24.0
   23.6
   Plt
   95
   91
   60
   42
   70
   80
   108
   Cr
   7.3
   7.3
   7.6
   7.6
   7.9
   7.6
   7.9
   8.2
   8.7
   TCO2
   12
   Glucose
   123
   146
   181
   145
   126
   128
   154
   181
   177
   Other labs: PT / PTT / INR:32.9/82.6/3.3, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:40/79, Alk Phos / T Bili:34/3.9,
   Differential-Neuts:86.4 %, Lymph:7.2 %, Mono:2.8 %, Eos:3.1 %,
   Fibrinogen:169 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:8.9 mg/dL, Mg++:2.5 mg/dL, PO4:9.4 mg/dL
   ECG: T wave peaked in lead V2, but isolated
   Assessment and Plan
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 LIVER FUNCTION ABNORMALITIES
   43 yo male with history of cirrhosis, sepsis , worsening renal
   failure/HRS, respiratory alkalosis/respiratory failure, liver failure.
   Prognosis extemely poor as communicated in family meeting yesterday.
   Now DNR/DNI.
   1)Respiratory Failure - Cont current vent managment
   2)Sepsis -Off pressors at the moment
   3)Altered Mental Status with Intermittent Convulsions
 Ativan prn.
   Keppra.  Fosphenytoin.  Acyclovir day [**5-11**] given temporal lobe
   hypodensities on latest CT scan.
   4)Cirrhosis-
   Lactulose, Thiamine, MVI.
   5)Acute Renal Failure - Renal failure accelerating with worsening
   acidemia and hyperkalemia.  Will give bicarbonate today
   Anticipate another family meeting tomorrow
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   TPN without Lipids - [**2127-10-21**] 03:47 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2127-10-24 09:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Acyclovir - [**2127-10-23**] 09:30 PM
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2127-10-24**] 06:09 AM
   Pantoprazole (Protonix) - [**2127-10-24**] 08:00 AM
   Morphine Sulfate - [**2127-10-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-24**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 87 (82 - 100) bpm
   BP: 96/45(57) {85/32(46) - 100/50(61)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.8 kg (admission): 58.6 kg
   Height: 62 Inch
                  Total In:
                                                                  1,653 mL
                                                                    632 mL
   PO:
                  TF:
   IVF:
                                                                    333 mL
   Blood products:
   Total out:
                                                                    810 mL
                                                                     65 mL
   Urine:
                                                                     10 mL
                                                                     65 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                    843 mL
                                                                    567 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 27 cmH2O
   SpO2: 97%
   ABG: ///12/
   Ve: 11.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   7.1 g/dL
   140 mg/dL
   9.7 mg/dL
   12 mEq/L
   5.0 mEq/L
   228 mg/dL
   102 mEq/L
   138 mEq/L
   22.3 %
   8.9 K/uL
        [image002.jpg]
                            [**2127-10-18**]  04:02 AM
                            [**2127-10-18**]  06:07 PM
                            [**2127-10-19**]  03:47 AM
                            [**2127-10-20**]  03:47 AM
                            [**2127-10-20**]  05:43 AM
                            [**2127-10-21**]  04:06 AM
                            [**2127-10-22**]  04:11 AM
                            [**2127-10-22**]  04:50 PM
                            [**2127-10-23**]  05:28 AM
                            [**2127-10-24**]  03:38 AM
   WBC
   15.6
   10.1
   10.9
   13.8
   13.6
   12.3
   8.7
   8.9
   Hct
   24.4
   22.3
   24.9
   24.2
   24.0
   23.6
   22.3
   22.3
   Plt
   91
   60
   42
   70
   80
   108
   117
   134
   Cr
   7.6
   7.9
   7.6
   7.9
   8.2
   8.7
   8.9
   9.0
   9.7
   TCO2
   12
   Glucose
   145
   126
   128
   154
   181
   177
   185
   178
   140
   Other labs: PT / PTT / INR:32.2/80.5/3.2, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:40/79, Alk Phos / T Bili:34/3.9,
   Differential-Neuts:86.4 %, Lymph:7.2 %, Mono:2.8 %, Eos:3.1 %,
   Fibrinogen:169 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:8.7 mg/dL
   Assessment and Plan
   Assessment and Plan
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock, reduced mental status, new whole brain edema, hepatorenal
   syndrome, with overall poor prognosis.
   # Altered Mental Status/Cerebral edema: likely multifactorial including
   hepatic encephalopathy, worsening cerebral edema, vs infection: no
   chance of neurologic recovery better than persistent vegetative state
   -D/c acyclovir yesterday
   -D/c lactulose (encephalopathy is not going to reverse at this point)
   .
   # Sepsis: Pt has WBC count up but trending down, hypotension improved
   not requiring pressors.  Abx courses for prior PNA complete.
   .
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Seizures have improved since started on  Keppra 500IV [**Hospital1 7**],
   fosphenytoin 100mg Q12h.
   - continue fosphenytoin
   - Ativan PRN convulsions (use in caution)
   - phenytoin level goal [**10-13**]
   - f/u neuro recs
   # Acute on chronic renal failure:  Cr 7.9 -> 9.5; with minimal UOP.
   Likely hepatorenal syndrome, supported by urine lytes with UNa < 10.
   Not offered dialysis given prognosis.  On octreotide and midodrine but
   creatinine continues to worsen.
   -  Creatinines continuing to worsen; no need to check creatinines
   anylonger.
   # Anemia - Hct stable 24 today.  No obvious bleeding.  Can continue to
   follow daily HCT.
   - daily  Hct
   - Goal Hct > 21
   - Active T&S
    # ETOH cirrhosis/ESLD: patient with MELD score of 45, currently not a
   transplant candidate.
   - tx for hepatic encephalopathy with laculose po tid titrate to [**3-5**]  BM
   daily, + enemas if not meeting goal  (>1L output yesterday)
   # FEN: IVF, no need to continue to check lytes, TPN
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: IJ
   # Code: DNR/DNI
   # Communication: wife, mother and family.
   - Family meeting yesterday
   - Plan for family meeting tomorrow
   # Disposition: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2127-10-23**] 03:45 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-25 08:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No overnight events
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Acyclovir - [**2127-10-23**] 09:30 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2127-10-25**] 02:00 AM
   Midazolam (Versed) - [**2127-10-25**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-25**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.2
   HR: 87 (74 - 102) bpm
   BP: 96/37(52) {87/36(51) - 108/51(64)} mmHg
   RR: 21 (17 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  1,738 mL
                                                                    682 mL
   PO:
             TF:
   IVF:
                                                                    110 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                     85 mL
                                                                     20 mL
   Urine:
                                                                     85 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,653 mL
                                                                    662 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 12.2 L/min
   Physical Examination
   Cardiovascular: Gen: NAD
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   7.1 g/dL
   140 mg/dL
   9.7 mg/dL
   12 mEq/L
   5.0 mEq/L
   228 mg/dL
   102 mEq/L
   138 mEq/L
   22.3 %
   8.9 K/uL
        [image002.jpg]
                            [**2127-10-18**]  04:02 AM
                            [**2127-10-18**]  06:07 PM
                            [**2127-10-19**]  03:47 AM
                            [**2127-10-20**]  03:47 AM
                            [**2127-10-20**]  05:43 AM
                            [**2127-10-21**]  04:06 AM
                            [**2127-10-22**]  04:11 AM
                            [**2127-10-22**]  04:50 PM
                            [**2127-10-23**]  05:28 AM
                            [**2127-10-24**]  03:38 AM
   WBC
   15.6
   10.1
   10.9
   13.8
   13.6
   12.3
   8.7
   8.9
   Hct
   24.4
   22.3
   24.9
   24.2
   24.0
   23.6
   22.3
   22.3
   Plt
   91
   60
   42
   70
   80
   108
   117
   134
   Cr
   7.6
   7.9
   7.6
   7.9
   8.2
   8.7
   8.9
   9.0
   9.7
   TCO2
   12
   Glucose
   145
   126
   128
   154
   181
   177
   185
   178
   140
   Other labs: PT / PTT / INR:32.2/80.5/3.2, ALT / AST:40/79, Alk Phos / T
   Bili:34/3.9, Differential-Neuts:86.4 %, Lymph:7.2 %, Mono:2.8 %,
   Eos:3.1 %, Fibrinogen:169 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0
   g/dL, LDH:396 IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:8.7 mg/dL
   Imaging: no new imaging
   Microbiology: no new micro
   Assessment and Plan
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 LIVER FUNCTION ABNORMALITIES
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock, reduced mental status, new whole brain edema, hepatorenal
   syndrome, with overall poor prognosis.
   # Altered Mental Status/Cerebral edema: likely multifactorial including
   hepatic encephalopathy, worsening cerebral edema, vs infection: no
   chance of neurologic recovery better than persistent vegetative state
   - lactulose d/c'd (encephalopathy is not going to reverse at this
   point)
   # Sepsis: Pt has WBC count up but trending down, hypotension improved
   not requiring pressors.  Abx courses for prior PNA complete.
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Seizures have improved since started on  Keppra 500IV [**Hospital1 7**],
   fosphenytoin 100mg Q12h.
   - continue fosphenytoin
   - Ativan PRN convulsions (use in caution)
   - phenytoin level goal [**10-13**]
   - f/u neuro recs
   # Acute on chronic renal failure:  Cr 7.9 -> 9.7; with minimal UOP.
   Likely hepatorenal syndrome, supported by urine lytes with UNa < 10.
   Not offered dialysis given prognosis.  On octreotide and midodrine but
   creatinine continues to worsen.
   -  Creatinines continuing to worsen; check daily lytes
   # Anemia - Hct stable 24 today.  No obvious bleeding.  Can continue to
   follow daily HCT.
   - daily  Hct
   - Goal Hct > 21
   - Active T&S
    # ETOH cirrhosis/ESLD: patient with MELD score of 45, currently not a
   transplant candidate.
   # FEN:, TPN
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: IJ
   # Code: DNR/DNI
   # Communication: wife, mother and family.
   # Disposition: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2127-10-24**] 06:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Physical Exam (not included above):
   Intubated, sedated, NAD
   RRR, Nl S1 and S2
   Rhonchi anteriorly
   Abd distended, tense, + fluid wave, caput madusae
   1+ peripheral edema
   PERRL, no response to pain or voice
   AM labs obtained later in the morning
 showed metabolic acidosis,
   bicarb of 9.  Creatinine 8.9.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 568**], MD
   on:[**2127-10-25**] 18:14 ------
   Chart reviewed, pt examined, case discussed in detail.  I was with Dr.
   [**First Name (STitle) 568**] and team for delivery of all key services.  Her note above
   reflects my thoughts.  In addition, I would add/emphasize:
   43M w/ ESLD, altered mental status and presumed septic shock, new
   cerebral edema, and hepatorenal syndrome. Continuing current level of
   care but not accelerating aggressiveness given very poor prognosis.
   # AMS/Cerebral edema:
   - hepatic encephalopathy with worsening cerebral edema
   - little chance for neurologic recovery better than persistent
   vegetative state
   # Sepsis:
   -WBC count trending down
   -Off pressors
   # Convulsions
   - improved since started on  Keppra 500IV [**Hospital1 7**],   fosphenytoin 100mg
   Q12h.
   # Acute on chronic renal failure:
   - creat rising 7.9 -> 9.7
   -minimal UOP
   -presumed HRS Likely
   -on octreotide and midodrine
   For full details please see resident note above.
   Patient is criticall ill.
   Time spent on care 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 973**], MD
   on:[**2127-10-25**] 19:26 ------

2127-10-26 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - no overnight events
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Acyclovir - [**2127-10-23**] 09:30 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2127-10-25**] 01:10 PM
   Fosphenytoin - [**2127-10-25**] 06:00 PM
   Pantoprazole (Protonix) - [**2127-10-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-26**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 93 (78 - 93) bpm
   BP: 104/43(58) {90/35(50) - 111/58(69)} mmHg
   RR: 21 (21 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,049 mL
                                                                    649 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                     36 mL
                                                                      0 mL
   Urine:
                                                                     36 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,013 mL
                                                                    649 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 10
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 31 cmH2O
   SpO2: 97%
   ABG: ///8/
   Ve: 12 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   7.0 g/dL
   133 mg/dL
   10.1 mg/dL
   8 mEq/L
   5.3 mEq/L
   242 mg/dL
   98 mEq/L
   131 mEq/L
   21.0 %
   9.1 K/uL
        [image002.jpg]
                            [**2127-10-19**]  03:47 AM
                            [**2127-10-20**]  03:47 AM
                            [**2127-10-20**]  05:43 AM
                            [**2127-10-21**]  04:06 AM
                            [**2127-10-22**]  04:11 AM
                            [**2127-10-22**]  04:50 PM
                            [**2127-10-23**]  05:28 AM
                            [**2127-10-24**]  03:38 AM
                            [**2127-10-25**]  09:30 AM
                            [**2127-10-26**]  05:12 AM
   WBC
   10.9
   13.8
   13.6
   12.3
   8.7
   8.9
   8.5
   9.1
   Hct
   24.9
   24.2
   24.0
   23.6
   22.3
   22.3
   21.3
   21.0
   Plt
   42
   70
   80
   108
   117
   134
   126
   152
   Cr
   7.6
   7.9
   8.2
   8.7
   8.9
   9.0
   9.7
   10.2
   10.1
   TCO2
   12
   Glucose
   128
   154
   181
   177
   185
   178
   140
   136
   133
   Other labs: PT / PTT / INR:32.2/80.5/3.2, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:40/79, Alk Phos / T Bili:34/3.9,
   Differential-Neuts:86.4 %, Lymph:7.2 %, Mono:2.8 %, Eos:3.1 %,
   Fibrinogen:169 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:8.9 mg/dL
   Assessment and Plan
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock, reduced mental status, new whole brain edema, hepatorenal
   syndrome, with overall poor prognosis.
   # Altered Mental Status/Cerebral edema: likely multifactorial including
   hepatic encephalopathy, worsening cerebral edema, vs infection: no
   chance of neurologic recovery better than persistent vegetative state
   - lactulose d/c'd (encephalopathy is not going to reverse at this
   point)
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Seizures have improved since started on  Keppra 500IV [**Hospital1 7**],
   fosphenytoin 100mg Q12h.
   - continue fosphenytoin
   - Ativan PRN convulsions (use in caution)
   # Acute on chronic renal failure:  Cr 7.9 -> 9.7; with minimal UOP.
   Likely hepatorenal syndrome, supported by urine lytes with UNa < 10.
   Not offered dialysis given prognosis.  On octreotide and midodrine but
   creatinine continues to worsen.
   -  Creatinines continuing to worsen; check daily lytes
   # Anemia - Hct stable 24 today.  No obvious bleeding.  Can continue to
   follow daily HCT.
   - daily  Hct
   - Goal Hct > 21
   - Active T&S
   # ETOH cirrhosis/ESLD: patient with MELD score of 45, currently not a
   transplant candidate.
   # FEN: TPN
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: IJ
   # Code: DNR/DNI, no further agggressive care indicated
   # Communication: wife, mother and family.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2127-10-25**] 05:46 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-26 11:51:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: ESLD, sepsis, cerebral edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No events
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Acyclovir - [**2127-10-23**] 09:30 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2127-10-25**] 01:10 PM
   Fosphenytoin - [**2127-10-25**] 06:00 PM
   Pantoprazole (Protonix) - [**2127-10-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-26**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 91 (78 - 94) bpm
   BP: 97/43(56) {91/36(50) - 111/58(69)} mmHg
   RR: 23 (20 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,049 mL
                                                                    879 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                     36 mL
                                                                      5 mL
   Urine:
                                                                     36 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,013 mL
                                                                    874 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   Plateau: 31 cmH2O
   SpO2: 100%
   ABG: ///8/
   Ve: 13.4 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Distended
   Skin:  Cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   7.0 g/dL
   152 K/uL
   133 mg/dL
   10.1 mg/dL
   8 mEq/L
   5.3 mEq/L
   242 mg/dL
   98 mEq/L
   131 mEq/L
   21.0 %
   9.1 K/uL
        [image002.jpg]
                            [**2127-10-19**]  03:47 AM
                            [**2127-10-20**]  03:47 AM
                            [**2127-10-20**]  05:43 AM
                            [**2127-10-21**]  04:06 AM
                            [**2127-10-22**]  04:11 AM
                            [**2127-10-22**]  04:50 PM
                            [**2127-10-23**]  05:28 AM
                            [**2127-10-24**]  03:38 AM
                            [**2127-10-25**]  09:30 AM
                            [**2127-10-26**]  05:12 AM
   WBC
   10.9
   13.8
   13.6
   12.3
   8.7
   8.9
   8.5
   9.1
   Hct
   24.9
   24.2
   24.0
   23.6
   22.3
   22.3
   21.3
   21.0
   Plt
   42
   70
   80
   108
   117
   134
   126
   152
   Cr
   7.6
   7.9
   8.2
   8.7
   8.9
   9.0
   9.7
   10.2
   10.1
   TCO2
   12
   Glucose
   128
   154
   181
   177
   185
   178
   140
   136
   133
   Other labs: PT / PTT / INR:32.2/80.5/3.2, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:40/79, Alk Phos / T Bili:34/3.9,
   Differential-Neuts:86.4 %, Lymph:7.2 %, Mono:2.8 %, Eos:3.1 %,
   Fibrinogen:169 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:8.9 mg/dL
   Assessment and Plan
   43M w/ ESLD, altered mental status and presumed septic shock, cerebral
   edema, and hepatorenal syndrome. Continuing current level of care but
   not accelerating aggressiveness given very poor prognosis.
    # AMS/Cerebral edema:
   - hepatic encephalopathy with worsening cerebral edema
   - little chance for neurologic recovery better than persistent
   vegetative state
   # Sepsis:
   -WBC normalized
   -Off pressors- pressures remain borderline
    # Convulsions
   - improved since started on  Keppra 500IV [**Hospital1 7**],   fosphenytoin 100mg
   Q12h.
    # Acute on chronic renal failure:
   - creat rising - 10.1 today
   -minimal UOP
   -presumed HRS
   #Anemia
   -hct slowly trending down
   -consider transfusion if falls further depending on level of
   aggressiveness desired going forward
    For full details please see resident note.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2127-10-25**] 05:46 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2127-10-27 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No overnight events
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-10-26**] 08:00 PM
   Morphine Sulfate - [**2127-10-27**] 12:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-27**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.6
C (96
   HR: 79 (79 - 94) bpm
   BP: 86/35(47) {85/33(46) - 100/49(62)} mmHg
   RR: 25 (18 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.8 kg (admission): 58.6 kg
   Height: 62 Inch
             Total In:
                                                                  2,041 mL
                                                                    653 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,026 mL
                                                                    653 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 9
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 11.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   7.0 g/dL
   133 mg/dL
   10.1 mg/dL
   8 mEq/L
   5.3 mEq/L
   242 mg/dL
   98 mEq/L
   131 mEq/L
   21.0 %
   9.1 K/uL
        [image002.jpg]
                            [**2127-10-19**]  03:47 AM
                            [**2127-10-20**]  03:47 AM
                            [**2127-10-20**]  05:43 AM
                            [**2127-10-21**]  04:06 AM
                            [**2127-10-22**]  04:11 AM
                            [**2127-10-22**]  04:50 PM
                            [**2127-10-23**]  05:28 AM
                            [**2127-10-24**]  03:38 AM
                            [**2127-10-25**]  09:30 AM
                            [**2127-10-26**]  05:12 AM
   WBC
   10.9
   13.8
   13.6
   12.3
   8.7
   8.9
   8.5
   9.1
   Hct
   24.9
   24.2
   24.0
   23.6
   22.3
   22.3
   21.3
   21.0
   Plt
   42
   70
   80
   108
   117
   134
   126
   152
   Cr
   7.6
   7.9
   8.2
   8.7
   8.9
   9.0
   9.7
   10.2
   10.1
   TCO2
   12
   Glucose
   128
   154
   181
   177
   185
   178
   140
   136
   133
   Other labs: PT / PTT / INR:32.2/80.5/3.2, CK / CKMB /
   Troponin-T:750/4/0.05, ALT / AST:40/79, Alk Phos / T Bili:34/3.9,
   Differential-Neuts:86.4 %, Lymph:7.2 %, Mono:2.8 %, Eos:3.1 %,
   Fibrinogen:169 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0 g/dL, LDH:396
   IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:8.9 mg/dL
   Assessment and Plan
 ACUTE PAIN
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 LIVER FUNCTION ABNORMALITIES
   43 yom with ESLD a/w with altered mental status and now likely septic
   shock, reduced mental status, new whole brain edema, hepatorenal
   syndrome, with overall poor prognosis.
   # Altered Mental Status/Cerebral edema: likely multifactorial including
   hepatic encephalopathy, worsening cerebral edema, vs infection: no
   chance of neurologic recovery better than persistent vegetative state
   - lactulose d/c'd (encephalopathy is not going to reverse at this
   point)
   # Convulsions -  Most prominent in right side of face accompanied by
   right sided nystagmus of the eyes, at times evolving downward to
   include right upper extremity and right lower extremity in Jacksonian
   [**Month (only) **] type pattern.  Seizures could be secondary to overlying hepatic
   encephalopathy, renal encephalopathy/ uremia, infectious (meningitis),
   ischemic.  Seizures have improved since started on  Keppra 500IV [**Hospital1 7**],
   fosphenytoin 100mg Q12h.
   - continue fosphenytoin
   - Ativan PRN convulsions (use in caution)
   # Acute on chronic renal failure:  Cr 10.1 now with minimal UOP. Likely
   hepatorenal syndrome, supported by urine lytes with UNa < 10.  Not
   offered dialysis given prognosis.  On octreotide and midodrine but
   creatinine continues to worsen.
   -  Creatinine continues to worsen; now checking every other day lytes
   as there are no plans for intervention.
   # Anemia
 Hct stably low at 21 without obvious bleeding.  Can continue
   to follow daily HCT.
   - Every other day hematocrits.
   - Continue to transfuse?
   # ETOH cirrhosis/ESLD: patient with MELD score of 45, currently not a
   transplant candidate.
   # FEN: TPN
   # Prophylaxis: pneumoboots,  bowel regimen, [**Hospital1 7**] PPI
   # Access: IJ
   # Code: DNR/DNI, no further agggressive care indicated
   # Communication: wife, mother and family.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2127-10-26**] 05:45 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-8**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: